2204-12-25 06:20:00 Physician Resident Progress Note
Chief Complaint: Dyspnea
   24 Hour Events:
   Did well with levalbuterol Q2H-> switched to Q4H.
   Feels less jittery on levalbuterol, though tremor still above baseline
   Feels that breathing continues to improve.
   History obtained from Patient
   Allergies:
   History obtained from Patient
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   h/o tremor
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: sleepy
   Cardiovascular: No(t) Chest pain
   Respiratory: No(t) Dyspnea
   Flowsheet Data as of  [**2204-12-25**] 06:19 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.1
C (98.8
   Tcurrent: 37.1
C (98.7
   HR: 95 (94 - 115) bpm
   BP: 146/83(97){131/64(80) - 162/115(119)} mmHg
   RR: 21 (14 - 27) insp/min
   SpO2: 99%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 49 kg (admission): 49 kg
   Height: 63 Inch
             Total In:
                                                                  1,642 mL
                                                                    578 mL
   PO:
                                                                    720 mL
             TF:
   IVF:
                                                                    922 mL
                                                                    578 mL
   Blood products:
   Total out:
                                                                      0 mL
                                                                    600 mL
   Urine:
   600 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,642 mL
                                                                    -22 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 99%
   ABG: ///33/
   Physical Examination
   General Appearance: Thin, No(t) Diaphoretic, markedly kyphotic
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: MMM
   Cardiovascular: (S1: Normal), (S2: Normal, Distant), no murmur
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Wheezes :
   , Rhonchorous: ), Chest wall deformity; Good air movement with
   prolonged expiratory phase; +wheezes, +rhonchi
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right: Absent, Left: Absent, No(t) Cyanosis
   Musculoskeletal: Muscle wasting
   Skin:  Not assessed, Rash: pinpoint erythematous macules on left foot
   Neurologic: Attentive, Responds to: Not assessed, Oriented (to):
   person, place, +resting tremor of UE b/l but improved from yesterday
   Labs / Radiology
   336 K/uL
   12.9 g/dL
   159 mg/dL
   0.8 mg/dL
   33 mEq/L
   5.5 mEq/L
   14 mg/dL
   102 mEq/L
   140 mEq/L
   41.5 %
   8.2 K/uL
        [image002.jpg]
                             [**2204-12-25**]  04:25 AM
   WBC
   8.2
   Hct
   41.5
   Plt
   336
   Cr
   0.8
   Glucose
   159
   Other labs: Differential-Neuts:93.4 %, Lymph:4.4 %, Mono:1.9 %, Eos:0.1
   %, Ca++:9.1 mg/dL, Mg++:2.3 mg/dL, PO4:4.5 mg/dL
   Assessment and Plan
   61yo woman with COPD admitted with respiratory distress in setting of
   suspected pulmonary infection.
 CHRONIC OBSTRUCTIVE PULMONARY DISEASE (COPD, BRONCHITIS, EMPHYSEMA)
   WITH ACUTE EXACERBATION
   -       azithromycin and ceftriaxone for possible bronchitis or
   pneumonia
   -          solumedrol 125mg IV q8h for one more day, then wean down
   -          levalbuterol nebs (has not tolerated albuterol due to
   tremulousness)
   -          atrovent standing
   -          flonase
   -          f/u sputum culture
   -          wean oxygen as she is [**Age over 90 **]% on 4L this AM
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF):  Baseline Cr 0.6,
   Current Cr 0.8
   -          Cr improving with IV fluids, but still appears dry with
   elevated Cr and poor urine output
   -          Most likely is behind on fluids because of poor po over last
   few days
   -          bolus with 500cc NS over 30 minutes then 1L of NS
   maintenance
   -          follow Cr closely
 .H/O CORONARY ARTERY DISEASE (CAD, ISCHEMIC HEART DISEASE)
   -          denies chest pain despite continued tachycardia
   -          continue ASA, plavix and statin
   -          repeat cardiac enzymes this morning
   -          repeat EKG
   # Tachycardia:  DDx includes albuterol side effect, dehydration, or PE.
   -          trial of more aggressive IV fluids (but careful given report
   of volume overload at prior admission)
   -          continue levalbuterol
   -          defer work-up of PE for the time being as low clinical
   suspicion given that her dyspnea responded so quickly to COPD treatment
   # Leukocytosis:  Noted on admission, resolving.
   -          given that urine appears cloudy, will check UA
   -          covered for possible UTI with ceftriaxone/azithromycin
   # Hyperkalemia:  unclear etiology
   -          repeat EKG
   -          recheck K+ this AM
   -          may require calcium gluconate/kayexalate
 [**Last Name 121**] PROBLEM - ENTER DESCRIPTION IN COMMENTS
   Osteoporosis
   -          continue calcium, vitamin D
   -          pain control with fentanyl patch, nortryptiline, prn
   percocet
   ICU Care
   Nutrition:  Regular diet per patient request
   Glycemic Control:  not needed
   Lines:
   18 Gauge - [**2204-12-24**] 06:09 PM
   Prophylaxis:
   DVT: SubQ Heparin
   Stress ulcer: PPI
   VAP:  not on vent
   Comments:
   Communication:  Comments: Daughters [**Name (NI) 272**] [**Telephone/Fax (1) 379**] and [**Doctor First Name 380**]
   [**Telephone/Fax (1) 381**]
   Code status: Full code
   Disposition: Callout to floor

2204-12-25 17:55:00 Physician Attending Progress Note
Chief Complaint: SOB
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   Incr tremor overnight
   24 Hour Events:
 CALLED OUT
   History obtained from [**Hospital 85**] Medical records
   Allergies:
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2204-12-25**] 08:00 AM
   Heparin Sodium (Prophylaxis) - [**2204-12-25**] 08:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2204-12-25**] 05:54 PM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.1
C (98.7
   Tcurrent: 36.8
C (98.3
   HR: 112 (94 - 115) bpm
   BP: 149/82(96){131/65(84) - 162/115(119)} mmHg
   RR: 25 (14 - 27) insp/min
   SpO2: 94%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 49 kg (admission): 49 kg
   Height: 63 Inch
             Total In:
                                                                  1,642 mL
                                                                  1,745 mL
   PO:
                                                                    720 mL
                                                                    600 mL
   TF:
   IVF:
                                                                    922 mL
                                                                  1,145 mL
   Blood products:
   Total out:
                                                                      0 mL
                                                                    830 mL
   Urine:
   830 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,642 mL
                                                                    915 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 94%
   ABG: ///33/
   Physical Examination
   General Appearance: Anxious
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Distant)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Not assessed), (Left DP pulse: Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Percussion: Resonant : ),
   (Breath Sounds: Crackles : mid insp, Wheezes : prolonged, diffuse)
   Abdominal: Soft
   Extremities: Right: Absent, Left: Absent
   Musculoskeletal: Muscle wasting, Unable to stand
   Skin:  Warm, ecchymoses
   Neurologic: Attentive, Responds to: Not assessed, Movement: Not
   assessed, Tone: Not assessed
   Labs / Radiology
   12.9 g/dL
   336 K/uL
   159 mg/dL
   0.8 mg/dL
   33 mEq/L
   5.5 mEq/L
   14 mg/dL
   102 mEq/L
   140 mEq/L
   41.5 %
   8.2 K/uL
        [image002.jpg]
                             [**2204-12-25**]  04:25 AM
   WBC
   8.2
   Hct
   41.5
   Plt
   336
   Cr
   0.8
   TropT
   <0.01
   Glucose
   159
   Other labs: CK / CKMB / Troponin-T:21/4/<0.01, Differential-Neuts:93.4
   %, Lymph:4.4 %, Mono:1.9 %, Eos:0.1 %, Ca++:9.1 mg/dL, Mg++:2.3 mg/dL,
   PO4:4.5 mg/dL
   Assessment and Plan
 CHRONIC OBSTRUCTIVE PULMONARY DISEASE (COPD, BRONCHITIS, EMPHYSEMA)
   WITH ACUTE EXACERBATION improving after epsiode of bronchitis. Will
   wean steroids aggressively back to 10 mg/d. Still dry but drinking w/o
   difficulty. Will switch to oral abx
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF) apparently due to
   dehydration
 TACHYCARDIA, OTHER
 .H/O CORONARY ARTERY DISEASE (CAD, ISCHEMIC HEART DISEASE) no active
   ischemia
 [**Last Name 121**] PROBLEM - ENTER DESCRIPTION IN COMMENTS
   Osteoporosis
   ICU Care
   Nutrition:
   Glycemic Control:  SSI
   Lines:
   18 Gauge - [**2204-12-24**] 06:09 PM
   Prophylaxis:
   DVT: sq heparin
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition : to floor
   Total time spent: 35 min

2204-12-26 07:54:00 Physician Resident Progress Note
Chief Complaint: Dyspnea/COPD
   24 Hour Events:
 CALLED OUT but not sent to floor [**12-29**] poor air movement. added
   fluticasone-salmeterol
   tapering steroids
   hypertensive with tachycardia so started on diltiazem
   became acutely dyspneic with desat to 89% on 2L at 6:45am; started on
   nebs and O2 increased
   reaffirmed that she would be want to be intubated if necessary
   History obtained from Patient
   Allergies:
   History obtained from Patient
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2204-12-25**] 08:00 AM
   Heparin Sodium (Prophylaxis) - [**2204-12-25**] 08:00 PM
   Diltiazem - [**2204-12-25**] 10:10 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: tired
   Respiratory: Dyspnea
   Flowsheet Data as of  [**2204-12-26**] 07:47 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37
C (98.6
   Tcurrent: 36.8
C (98.3
   HR: 106 (101 - 122) bpm
   BP: 169/83(104){143/66(85) - 176/96(112)} mmHg
   RR: 20 (16 - 31) insp/min
   SpO2: 95%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 49 kg (admission): 49 kg
   Height: 63 Inch
             Total In:
                                                                  3,267 mL
                                                                    895 mL
   PO:
                                                                    840 mL
             TF:
   IVF:
                                                                  2,427 mL
                                                                    895 mL
   Blood products:
   Total out:
                                                                  1,495 mL
                                                                    715 mL
   Urine:
                                                                  1,495 mL
                                                                    715 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,772 mL
                                                                    180 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 95%
   ABG: 7.36/58/69/28/4
   Physical Examination
   General Appearance: Thin, working hard to breathe
   Eyes / Conjunctiva: pupils equal
   Head, Ears, Nose, Throat: face mask with albuterol treatment
   Cardiovascular: (S1: Normal), (S2: Normal), tachycardic, regular
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Present), (Left DP pulse:
   Present)
   Respiratory / Chest: (Expansion: Symmetric, Paradoxical), (Breath
   Sounds: Diminished: at bases), +accessory muscle use; +kyphosis and
   deformity of sternum; very tight with wheezes throughout
   Abdominal: Soft, Non-tender
   Extremities: Right: Absent, Left: Absent, No(t) Cyanosis
   Skin:  Not assessed, Rash: erythematous macules on feet
   Neurologic: Attentive, Follows simple commands, Responds to: Not
   assessed, Oriented (to): person, place, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   342 K/uL
   11.9 g/dL
   117 mg/dL
   0.7 mg/dL
   28 mEq/L
   4.5 mEq/L
   16 mg/dL
   103 mEq/L
   140 mEq/L
   37.9 %
   17.6 K/uL
        [image002.jpg]
                             [**2204-12-25**]  04:25 AM
                             [**2204-12-26**]  02:06 AM
                             [**2204-12-26**]  04:56 AM
                             [**2204-12-26**]  05:51 AM
   WBC
   8.2
   17.6
   Hct
   41.5
   37.9
   Plt
   336
   342
   Cr
   0.8
   0.7
   0.7
   TropT
   <0.01
   TCO2
   34
   Glucose
   159
   148
   117
   Other labs: CK / CKMB / Troponin-T:21/4/<0.01, Differential-Neuts:93.4
   %, Lymph:4.4 %, Mono:1.9 %, Eos:0.1 %, Ca++:8.8 mg/dL, Mg++:1.9 mg/dL,
   PO4:3.5 mg/dL
   Assessment and Plan
   61yo woman with COPD admitted with dyspnea and possible bronchitis.
 Respiratory failure/ CHRONIC OBSTRUCTIVE PULMONARY DISEASE (COPD,
   BRONCHITIS, EMPHYSEMA) WITH ACUTE EXACERBATION
   -          Acute worsening this morning; monitor closely for need to
   intubate
   -          continue azithromycin and ceftriaxone for possible
   bronchitis
   -          continue solumedrol 125mg IV q8h
   -          continue albuterol, flonase, and atrovent
 will switch to
   MDI if intubated
   -          on singulair
   -          f/u sputum cx
   -          has had positive fluid balance since admission with
   worsening respiratory status and elevated BP, so may be volume
   overloaded.  Will give trial of diuresis with lasix while observing Cr
   closely
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
   -          baseline Cr 0.6, current Cr 0.7
   -          improving with IV fluids; has good urine output
   -          currently suspect that she is volume high, so will diurese
   and watch Cr closely
 TACHYCARDIA, OTHER
   -          has been tachycardic in past during COPD exacerbations; this
   is likely due to sympathetic outflow in setting of acute illness as
   well as albuterol side effect
   -          continue levalbuterol
   -          monitor on telemetry
   # HTN:
   -          continue diltiazem for control of elevated BP as needed
   -          note that she may require decreased doses if sedated for
   intubation
   # Leukocytosis
   -          most likely secondary to steroids
   -          continue to treat possible bronchitis
   -          UA negative for evidence of infection
 .H/O CORONARY ARTERY DISEASE (CAD, ISCHEMIC HEART DISEASE)
   -          second set of cardiac enzymes negative; has no chest pain
   -          continue ASA, plavix, statin
 [**Last Name 121**] PROBLEM - ENTER DESCRIPTION IN COMMENTS
   Osteoporosis
   -          continue calcium, vitamin D
   -          pain control per home regimen with fentanyl patch,
   mortryptiline, percocet prn
   ICU Care
   Nutrition:
   Comments: regular diet; if intubated, will put on tube feeds
   Glycemic Control:  Blood sugar well controlled
   Lines:
   18 Gauge - [**2204-12-24**] 06:09 PM
   Prophylaxis:
   DVT: SQ UF Heparin(Systemic anticoagulation: None)
   Stress ulcer: PPI
   VAP:  mouth care if intubated
   Comments:
   Communication: ICU consent signed Comments:
   Code status: Full code ; states that she would not want tracheostomy
   Disposition:ICU

2204-12-26 10:15:00 Physician Attending Progress Note
Chief Complaint: SOB/ respiratory failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   epsisode of incr SOB this am necessitating intubation
   24 Hour Events:
   intubation this am
   Patient unable to provide history: Sedated
   Allergies:
   Last dose of Antibiotics:
   Infusions:
   Fentanyl - 100 mcg/hour
   Midazolam (Versed) - 2 mg/hour
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2204-12-25**] 08:00 PM
   Diltiazem - [**2204-12-25**] 10:10 PM
   Midazolam (Versed) - [**2204-12-26**] 09:33 AM
   Fentanyl - [**2204-12-26**] 09:33 AM
   Other medications:
   Changes to medical and family history: none
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Ear, Nose, Throat: OG / NG tube
   Nutritional Support: NPO
   Respiratory: Dyspnea, Tachypnea
   Endocrine: Hyperglycemia
   Flowsheet Data as of  [**2204-12-26**] 10:14 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.9
C (98.4
   Tcurrent: 36.6
C (97.8
   HR: 119 (101 - 141) bpm
   BP: 136/76(89){136/66(85) - 180/99(131)} mmHg
   RR: 18 (16 - 31) insp/min
   SpO2: 98%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 49 kg (admission): 49 kg
   Height: 63 Inch
             Total In:
                                                                  3,267 mL
                                                                  1,151 mL
   PO:
                                                                    840 mL
             TF:
   IVF:
                                                                  2,427 mL
                                                                  1,151 mL
   Blood products:
   Total out:
                                                                  1,495 mL
                                                                    960 mL
   Urine:
                                                                  1,495 mL
                                                                    960 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,772 mL
                                                                    191 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 600 (600 - 600) mL
   RR (Set): 18
   RR (Spontaneous): 2
   PEEP: 5 cmH2O
   FiO2: 50%
   PIP: 32 cmH2O
   SpO2: 98%
   ABG: 7.36/58/69/28/4
   Ve: 10.6 L/min
   PaO2 / FiO2: 138
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   11.9 g/dL
   342 K/uL
   117 mg/dL
   0.7 mg/dL
   28 mEq/L
   4.5 mEq/L
   16 mg/dL
   103 mEq/L
   140 mEq/L
   37.9 %
   17.6 K/uL
        [image002.jpg]
                             [**2204-12-25**]  04:25 AM
                             [**2204-12-26**]  02:06 AM
                             [**2204-12-26**]  04:56 AM
                             [**2204-12-26**]  05:51 AM
   WBC
   8.2
   17.6
   Hct
   41.5
   37.9
   Plt
   336
   342
   Cr
   0.8
   0.7
   0.7
   TropT
   <0.01
   TCO2
   34
   Glucose
   159
   148
   117
   Other labs: CK / CKMB / Troponin-T:21/4/<0.01, Differential-Neuts:93.4
   %, Lymph:4.4 %, Mono:1.9 %, Eos:0.1 %, Ca++:8.8 mg/dL, Mg++:1.9 mg/dL,
   PO4:3.5 mg/dL
   Assessment and Plan
 CHRONIC OBSTRUCTIVE PULMONARY DISEASE (COPD, BRONCHITIS, EMPHYSEMA)
   WITH ACUTE EXACERBATION - intubated this am. Hypertensive preintubation
   and now normotensive despite sedation and positive pressure.  Has been
   pos in I&O for 3d. Will try to diurese and check echo since last echo 2
   years ago had mild MR and some hypokinesis.
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF) - improved
 TACHYCARDIA, OTHER
 .H/O CORONARY ARTERY DISEASE (CAD, ISCHEMIC HEART DISEASE)
 [**Last Name 121**] PROBLEM - ENTER DESCRIPTION IN COMMENTS
   Osteoporosis
   ICU Care
   Nutrition:
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   18 Gauge - [**2204-12-24**] 06:09 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer:
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Need for restraints reviewed
   Comments:
   Communication: Patient discussed on interdisciplinary rounds , ICU
   Code status: Full code
   Disposition :ICU
   Total time spent: 55
   Patient is critically ill

2204-12-27 07:08:00 Physician Resident Progress Note
Chief Complaint: Dyspnea
   24 Hour Events:
 INVASIVE VENTILATION - START [**2204-12-26**] 09:29 AM
 SPUTUM CULTURE - At [**2204-12-26**] 09:36 AM
   - remains intubated
   - a-line placement attempted x 2, failed both times bilaterally!
   - ABG done with e/o overventilation and overoxygenation, vent settings
   adjusted accordingly
   - plan to get another ABG for morning rounds
   - diuresed negative 1L
   Allergies:
   Last dose of Antibiotics:
   Ceftriaxone - [**2204-12-26**] 11:18 AM
   Infusions:
   Fentanyl - 100 mcg/hour
   Midazolam (Versed) - 2 mg/hour
   Other ICU medications:
   Fentanyl - [**2204-12-26**] 09:33 AM
   Heparin Sodium (Prophylaxis) - [**2204-12-26**] 08:00 PM
   Midazolam (Versed) - [**2204-12-26**] 09:00 PM
   Furosemide (Lasix) - [**2204-12-26**] 09:19 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2204-12-27**] 06:58 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.8
C (98.2
   Tcurrent: 36.2
C (97.1
   HR: 92 (90 - 141) bpm
   BP: 133/72(88){111/53(76) - 180/99(131)} mmHg
   RR: 16 (16 - 25) insp/min
   SpO2: 95%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 49 kg (admission): 49 kg
   Height: 63 Inch
             Total In:
                                                                  1,948 mL
                                                                    550 mL
   PO:
             TF:
                                                                    288 mL
                                                                    340 mL
   IVF:
                                                                  1,555 mL
                                                                    150 mL
   Blood products:
   Total out:
                                                                  3,115 mL
                                                                    390 mL
   Urine:
                                                                  3,115 mL
                                                                    390 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,167 mL
                                                                    160 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 500 (500 - 600) mL
   RR (Set): 16
   RR (Spontaneous): 6
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 40
   PIP: 20 cmH2O
   Plateau: 17 cmH2O
   SpO2: 95%
   ABG: 7.47/48/167/34/10 at 5pm [**12-26**]
   Ve: 7.8 L/min
   PaO2 / FiO2: 418
   Physical Examination
   General Appearance: Intubated, sedated but wakens easily and nods
   appropriately
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Endotracheal tube, OG tube
   Cardiovascular: (S1: Normal), (S2: Normal), HR 90s, regular
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Present), (Left DP pulse:
   Present), LE cool to touch but hands warm
   Respiratory / Chest: (Expansion: Symmetric), coarse breath sounds b/l;
   kyphosis and sternal deformity
   Abdominal: Soft, Non-tender, Bowel sounds present, No(t) Distended
   Extremities: No LE edema; + UE restraints
   Musculoskeletal: Muscle wasting
   Skin:  Not assessed
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   389 K/uL
   12.7 g/dL
   150 mg/dL
   0.8 mg/dL
   34 mEq/L
   4.0 mEq/L
   24 mg/dL
   97 mEq/L
   138 mEq/L
   40.5 %
   14.9 K/uL
        [image002.jpg]
                             [**2204-12-25**]  04:25 AM
                             [**2204-12-26**]  02:06 AM
                             [**2204-12-26**]  04:56 AM
                             [**2204-12-26**]  05:51 AM
                             [**2204-12-26**]  05:36 PM
                             [**2204-12-27**]  04:32 AM
   WBC
   8.2
   17.6
   14.9
   Hct
   41.5
   37.9
   40.5
   Plt
   [**Telephone/Fax (3) 501**]
   Cr
   0.8
   0.7
   0.7
   0.8
   TropT
   <0.01
   TCO2
   34
   36
   Glucose
   159
   148
   117
   150
   Other labs: CK / CKMB / Troponin-T:21/4/<0.01, Differential-Neuts:94.8
   %, Lymph:2.4 %, Mono:2.6 %, Eos:0.1 %, Ca++:9.0 mg/dL, Mg++:2.1 mg/dL,
   PO4:3.7 mg/dL
   Respiratory cx and BCx pending; UCx negative
   CXR [**12-26**]:
   Unchanged appearance of right lower lobe consolidation with
   underlying pleural effusion could reflect atelectasis or pneumonia.
   Assessment and Plan
   61yo woman with respiratory failure from COPD and
   bronchitis/?pneumonia.
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name **])
   -          most likely due to COPD, but may have had a component of
   volume overload in the setting of fluid resuscitation
   -          continue to diurese and treat COPD as below
   -          trial of pressure support today
 CHRONIC OBSTRUCTIVE PULMONARY DISEASE (COPD, BRONCHITIS, EMPHYSEMA)
   WITH ACUTE EXACERBATION
   -          treating with ceftriaxone and azithromycin day 4
   -          currently intubated
   -          solumedrol 125mg iv q8h
   -          continue albuterol and atrovent
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
   -          baseline Cr 0.6, current Cr 0.8
   -          continue gentle diuresis; monitor Cr
 TACHYCARDIA, OTHER
   -          improved s/p intubation
   -          was most likely due to sympathetic discharge in setting of
   respiratory distress
   -          given ectopy this morning, will start beta blocker to better
   control rate
   # HTN:
   -          resolved s/p intubation
   -          continue diltiazem 60 TID; start metoprolol as above
 .H/O CORONARY ARTERY DISEASE (CAD, ISCHEMIC HEART DISEASE)
   -          ruled out with negative CE x 2 on admission
   -          continue statin, plavix, ASA
   -          start metoprolol as discussed above
 [**Last Name 121**] PROBLEM - ENTER DESCRIPTION IN COMMENTS
   Osteoporosis
   -          continue Ca and vitamin D
   -          continue home pain meds (fentanyl patch, nortryptiline)
   ICU Care
   Nutrition:
   Replete with Fiber (Full) - [**2204-12-27**] 02:00 AM 50 mL/hour
   Glycemic Control:  Comments: BS 150 this AM on tube feeds; will tighten
   SSI
   Lines:
   18 Gauge - [**2204-12-24**] 06:09 PM
   22 Gauge - [**2204-12-26**] 03:07 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments: restraints while intubated
   Communication:  Comments: PCP and daughters aware that patient is
   intubated
   Code status: Full code
   Disposition:ICU

2204-12-27 10:20:00 Physician Attending Progress Note
Chief Complaint: Respiratory failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   Comfortable on vent
   24 Hour Events:
 INVASIVE VENTILATION - START [**2204-12-26**] 09:29 AM
 SPUTUM CULTURE - At [**2204-12-26**] 09:36 AM
   History obtained from [**Hospital 85**] Medical records
   Allergies:
   Last dose of Antibiotics:
   Ceftriaxone - [**2204-12-26**] 11:18 AM
   Infusions:
   Fentanyl - 100 mcg/hour
   Midazolam (Versed) - 2 mg/hour
   Other ICU medications:
   Midazolam (Versed) - [**2204-12-26**] 09:00 PM
   Furosemide (Lasix) - [**2204-12-26**] 09:19 PM
   Heparin Sodium (Prophylaxis) - [**2204-12-27**] 06:00 AM
   Other medications:
   Changes to medical and family history: Reviewed
 no changes
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: Fatigue
   Respiratory: Dyspnea
   Psychiatric / Sleep: comfortable
   Signs or concerns for abuse : No
   Flowsheet Data as of  [**2204-12-27**] 10:20 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.8
C (98.2
   Tcurrent: 36.3
C (97.3
   HR: 91 (90 - 117) bpm
   BP: 121/65(79){111/65(76) - 148/80(92)} mmHg
   RR: 16 (16 - 18) insp/min
   SpO2: 94%
   Heart rhythm: ST (Sinus Tachycardia) , VT (Ventricular Tachycardia)
   Wgt (current): 49 kg (admission): 49 kg
   Height: 63 Inch
             Total In:
                                                                  1,948 mL
                                                                    942 mL
   PO:
             TF:
                                                                    288 mL
                                                                    508 mL
   IVF:
                                                                  1,555 mL
                                                                    223 mL
   Blood products:
   Total out:
                                                                  3,115 mL
                                                                    455 mL
   Urine:
                                                                  3,115 mL
                                                                    455 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,167 mL
                                                                    487 mL
   Respiratory support
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 500 (500 - 600) mL
   RR (Set): 16
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 40
   PIP: 29 cmH2O
   Plateau: 17 cmH2O
   SpO2: 94%
   ABG: 7.39/66/86/34/11
   Ve: 7.5 L/min
   PaO2 / FiO2: 215
   Physical Examination
   General Appearance: Frail
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic, Endotracheal tube
   Lymphatic: Cervical WNL
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Not assessed), (Left DP pulse: Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Percussion:
   Hyperresonant: ), (Breath Sounds: Crackles : scattered mid insp,
   Wheezes : )
   Abdominal: Soft
   Extremities: Right: Absent, Left: Absent
   Musculoskeletal: Muscle wasting, Unable to stand
   Skin:  Warm
   Neurologic: Attentive, Follows simple commands, Responds to: Not
   assessed, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   12.7 g/dL
   389 K/uL
   150 mg/dL
   0.8 mg/dL
   34 mEq/L
   4.0 mEq/L
   24 mg/dL
   97 mEq/L
   138 mEq/L
   40.5 %
   14.9 K/uL
         [image002.jpg]
                             [**2204-12-25**]  04:25 AM
                             [**2204-12-26**]  02:06 AM
                             [**2204-12-26**]  04:56 AM
                             [**2204-12-26**]  05:51 AM
                             [**2204-12-26**]  05:36 PM
                             [**2204-12-27**]  04:32 AM
                             [**2204-12-27**]  07:52 AM
   WBC
   8.2
   17.6
   14.9
   Hct
   41.5
   37.9
   40.5
   Plt
   [**Telephone/Fax (3) 501**]
   Cr
   0.8
   0.7
   0.7
   0.8
   TropT
   <0.01
   TCO2
   34
   36
   41
   Glucose
   159
   148
   117
   150
   Other labs: CK / CKMB / Troponin-T:21/4/<0.01, Differential-Neuts:94.8
   %, Lymph:2.4 %, Mono:2.6 %, Eos:0.1 %, Ca++:9.0 mg/dL, Mg++:2.1 mg/dL,
   PO4:3.7 mg/dL
   Assessment and Plan
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name **]) comfortable on the
   ventilator. RSBI 40 so will change to PSV and start to taper. She is
   minimally sedated
 CHRONIC OBSTRUCTIVE PULMONARY DISEASE (COPD, BRONCHITIS, EMPHYSEMA)
   WITH ACUTE EXACERBATION - Remains on abx. Would be inclined to continue
   to diurese as we are starting to reduce positive pressure
 PNEUMONIA, BACTERIAL, COMMUNITY ACQUIRED (CAP) - Temp down. CXR
   minimally improved
 HYPERTENSION, BENIGN
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
 TACHYCARDIA, OTHER
 .H/O CORONARY ARTERY DISEASE (CAD, ISCHEMIC HEART DISEASE)
 [**Last Name 121**] PROBLEM - ENTER DESCRIPTION IN COMMENTS
   Osteoporosis
   ICU Care
   Nutrition:
   Replete with Fiber (Full) - [**2204-12-27**] 02:00 AM 50 mL/hour
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   18 Gauge - [**2204-12-24**] 06:09 PM
   22 Gauge - [**2204-12-26**] 03:07 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Need for restraints reviewed
   Comments:
   Communication: Patient discussed on interdisciplinary rounds , ICU
   Code status: Full code
   Disposition :
   Total time spent: 40 minutes
   Patient is critically ill

2204-12-28 07:12:00 Physician Resident Progress Note
Chief Complaint: Dyspnea
   24 Hour Events:
 INVASIVE VENTILATION - STOP [**2204-12-27**] 03:48 PM
   Had been oversedated due to medication error in AM, which is why she
   did poorly on initial trial of PS
   Later trial of PS when she was awake went very well; extubated around
   4pm
   Increased SSI
   Diuresed >500cc for the day with one-time lasix dose
   Started metoprolol for continued tachycardia with episodes of NSVT
   Given 250cc NS bolus at 5am for low urine output
   Episode of 10 beat NSVT yesterday morning
   Allergies:
   Last dose of Antibiotics:
   Ceftriaxone - [**2204-12-27**] 12:30 PM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2204-12-28**] 06:13 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: feels much better; very hungry and thirsty
   Cardiovascular: No(t) Chest pain
   Respiratory: breathing improved since admission
   Flowsheet Data as of  [**2204-12-28**] 06:55 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.9
C (98.4
   Tcurrent: 35.9
C (96.7
   HR: 89 (79 - 106) bpm
   BP: 181/79(103){114/58(71) - 181/85(106)} mmHg
   RR: 19 (16 - 23) insp/min
   SpO2: 92%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 50.9 kg (admission): 49 kg
   Height: 63 Inch
             Total In:
                                                                  1,212 mL
                                                                    618 mL
   PO:
                                                                     90 mL
                                                                    300 mL
   TF:
                                                                    492 mL
   IVF:
                                                                    419 mL
                                                                    318 mL
   Blood products:
   Total out:
                                                                  1,781 mL
                                                                    147 mL
   Urine:
                                                                  1,781 mL
                                                                    147 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -569 mL
                                                                    471 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   Ventilator mode: CPAP/PPS
   Vt (Set): 500 (500 - 500) mL
   PS : 5 cmH2O
   RR (Set): 16
   PEEP: 5 cmH2O
   FiO2: 40%
   PIP: 29 cmH2O
   SpO2: 92%
   ABG: 7.39/66/86/40/11
   Ve: 7.5 L/min
   PaO2 / FiO2: 215
   Physical Examination
   General Appearance: No acute distress, Thin, smiling, [**Location (un) 308**] menu
   Eyes / Conjunctiva: PERRL
   Cardiovascular: (S1: Normal), (S2: Normal), (Murmur: No(t) Systolic),
   borderline tachycardic
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Crackles :
   , Wheezes : ), somewhat tight with diffuse wheezing; +kyphosis,
   +sternal deformity
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: pneumoboots in place; no LE edema
   Skin:  Not assessed, +rosacea
   Neurologic: Attentive, Responds to: Not assessed, Oriented (to): time,
   place, person, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   382 K/uL
   12.9 g/dL
   99 mg/dL
   0.7 mg/dL
   40 mEq/L
   3.7 mEq/L
   35 mg/dL
   95 mEq/L
   138 mEq/L
   42.1 %
   18.2 K/uL
        [image002.jpg]
                             [**2204-12-25**]  04:25 AM
                             [**2204-12-26**]  02:06 AM
                             [**2204-12-26**]  04:56 AM
                             [**2204-12-26**]  05:51 AM
                             [**2204-12-26**]  05:36 PM
                             [**2204-12-27**]  04:32 AM
                             [**2204-12-27**]  07:52 AM
                             [**2204-12-28**]  03:11 AM
   WBC
   8.2
   17.6
   14.9
   18.2
   Hct
   41.5
   37.9
   40.5
   42.1
   Plt
   [**Telephone/Fax (3) 546**]82
   Cr
   0.8
   0.7
   0.7
   0.8
   0.7
   TropT
   <0.01
   TCO2
   34
   36
   41
   Glucose
   159
   148
   117
   150
   99
   Other labs: CK / CKMB / Troponin-T:21/4/<0.01, Differential-Neuts:94.8
   %, Lymph:2.4 %, Mono:2.6 %, Eos:0.1 %, Ca++:9.3 mg/dL, Mg++:2.2 mg/dL,
   PO4:3.2 mg/dL
   Imaging: CXR [**12-27**]:
   Improving aeration in the right lower lobe, but area somewhat obscured.
   No pulmonary edema.
   Microbiology: Sputum Cx [**12-26**]: sparse growth oropharyngeal flora
   UCx negative
   BCx pending
   Assessment and Plan
   61yo woman admitted with dyspnea in the setting of COPD and possible
   respiratory infection.
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name **])
   -          s/p extubation [**12-27**]
   -          improving, at baseline O2 requirement
 CHRONIC OBSTRUCTIVE PULMONARY DISEASE (COPD, BRONCHITIS, EMPHYSEMA)
   WITH ACUTE EXACERBATION
   -          solumedrol 125mg iv q8h
   -          continue atrovent and levalbuterol as well as flonase
   -          restart montelukast now that she is extubated
 PNEUMONIA, BACTERIAL, COMMUNITY ACQUIRED (CAP)
   -          possible pneumonia on CXR; may have triggered worsening COPD
   -          ceftriaxone and azithromycin day 5 of [**9-10**]
 HYPERTENSION, BENIGN
worsening this AM, unclear why.  Gave dose of
   metoprolol early
   -          increase diltiazem and metoprolol for improved control
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF) / Fluid Status
   -          baseline Cr 0.6, current Cr 0.7
   -          although Cr was stable with diuresis, BUN increased and
   urine output dropped overnight
   -          gave back 500cc NS this AM; currently 800cc positive for the
   day and would leave her there and monitor for continued fluid
   requirement if urine output remains low
   -          continue Foley for good I/Os at present
 TACHYCARDIA, OTHER
   -          sinus tachycardia somewhat improved as respiratory status
   returns to baseline
   -          started metoprolol given persistent sinus tachycardia and
   episodes of ectopy; would increase given continued HTN
 .H/O CORONARY ARTERY DISEASE (CAD, ISCHEMIC HEART DISEASE)
   -          home meds:  ASA, plavix, statin
   -          started metoprolol
   # Worsening metabolic alkalosis:
   -          has chronic respiratory acidosis with compensatory metabolic
   alkalosis; jump in HCO3- could be do to volume contraction from
   diuresis
 [**Last Name 121**] PROBLEM - ENTER DESCRIPTION IN COMMENTS
   Osteoporosis:
   -          home medications, including Ca/Vit D and fentanyl patch,
   nortryptiline, percocet
   ICU Care
   Nutrition:
   Comments: regular diet
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   18 Gauge - [**2204-12-24**] 06:09 PM
   22 Gauge - [**2204-12-26**] 03:07 PM
   Prophylaxis:
   DVT: Boots, SQ UF Heparin
   Stress ulcer: PPI
   VAP:  not on vent
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:Stay in ICU overnight for monitoring of respiratory status
   and improved BP control

2204-12-28 10:18:00 Physician Attending Progress Note
Chief Complaint: SOB
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   Extubated
   24 Hour Events:
 INVASIVE VENTILATION - STOP [**2204-12-27**] 03:48 PM
   Allergies:
   Last dose of Antibiotics:
   Ceftriaxone - [**2204-12-27**] 12:30 PM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2204-12-28**] 06:13 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: Fatigue, Denies thirst
   Cardiovascular: HTN
   Respiratory: Cough, Dyspnea, Tachypnea
   Flowsheet Data as of  [**2204-12-28**] 10:18 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37
C (98.6
   Tcurrent: 37
C (98.6
   HR: 99 (79 - 102) bpm
   BP: 181/81(106){116/63(75) - 181/92(110)} mmHg
   RR: 20 (16 - 23) insp/min
   SpO2: 89%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 50.9 kg (admission): 49 kg
   Height: 63 Inch
             Total In:
                                                                  1,212 mL
                                                                  1,022 mL
   PO:
                                                                     90 mL
                                                                    420 mL
   TF:
                                                                    492 mL
   IVF:
                                                                    419 mL
                                                                    602 mL
   Blood products:
   Total out:
                                                                  1,781 mL
                                                                    227 mL
   Urine:
                                                                  1,781 mL
                                                                    227 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -569 mL
                                                                    795 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   Ventilator mode: CPAP/PPS
   PS : 5 cmH2O
   FiO2: 40%
   SpO2: 89%
   ABG: ///40/
   Physical Examination
   General Appearance: Frail
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Lymphatic: Cervical WNL
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Not assessed), (Left DP pulse: Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Percussion:
   Hyperresonant: ), (Breath Sounds: Crackles : mid insp, Wheezes :
   diffuse)
   Abdominal: Soft, Bowel sounds present
   Extremities: Right: Absent, Left: Absent, No(t) Cyanosis, No(t)
   Clubbing
   Musculoskeletal: Muscle wasting, Unable to stand
   Skin:  Warm
   Neurologic: Attentive, Follows simple commands, Responds to: Not
   assessed, Oriented (to): x3, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   12.9 g/dL
   382 K/uL
   99 mg/dL
   0.7 mg/dL
   40 mEq/L
   3.7 mEq/L
   35 mg/dL
   95 mEq/L
   138 mEq/L
   42.1 %
   18.2 K/uL
        [image002.jpg]
                             [**2204-12-25**]  04:25 AM
                             [**2204-12-26**]  02:06 AM
                             [**2204-12-26**]  04:56 AM
                             [**2204-12-26**]  05:51 AM
                             [**2204-12-26**]  05:36 PM
                             [**2204-12-27**]  04:32 AM
                             [**2204-12-27**]  07:52 AM
                             [**2204-12-28**]  03:11 AM
   WBC
   8.2
   17.6
   14.9
   18.2
   Hct
   41.5
   37.9
   40.5
   42.1
   Plt
   [**Telephone/Fax (3) 546**]82
   Cr
   0.8
   0.7
   0.7
   0.8
   0.7
   TropT
   <0.01
   TCO2
   34
   36
   41
   Glucose
   159
   148
   117
   150
   99
   Other labs: CK / CKMB / Troponin-T:21/4/<0.01, Differential-Neuts:94.8
   %, Lymph:2.4 %, Mono:2.6 %, Eos:0.1 %, Ca++:9.3 mg/dL, Mg++:2.2 mg/dL,
   PO4:3.2 mg/dL
   Assessment and Plan
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name **]) has improved but not at
   baseline.  We have diuresed her substantially over last several days
   but seems sl dry now.  Continuing steroids, MDIs, abx.  Still fragile.
   Remains very tenuous.
 CHRONIC OBSTRUCTIVE PULMONARY DISEASE (COPD, BRONCHITIS, EMPHYSEMA)
   WITH ACUTE EXACERBATION
 PNEUMONIA, BACTERIAL, COMMUNITY ACQUIRED (CAP)
 HYPERTENSION, BENIGN - BP labile but up this am with primarily
   systolic HTN. Increasing dilt and metoprolol
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
 TACHYCARDIA, OTHER
 .H/O CORONARY ARTERY DISEASE (CAD, ISCHEMIC HEART DISEASE)
 [**Last Name 121**] PROBLEM - ENTER DESCRIPTION IN COMMENTS
   Osteoporosis
   ICU Care
   Nutrition:
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   18 Gauge - [**2204-12-24**] 06:09 PM
   22 Gauge - [**2204-12-26**] 03:07 PM
   Prophylaxis:
   DVT: Boots, SQ UF Heparin
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication: Patient discussed on interdisciplinary rounds , ICU
   Code status: Full code
   Disposition :ICU
   Total time spent: 40 minutes
   Patient is critically ill

2204-12-29 08:06:00 Physician Resident Progress Note
Chief Complaint: COPD
   24 Hour Events:
   confused, she thought it was due to steroids (she has had similar
   problems with steroids in past)
   changed from IV to PO steroids
   nutrition saw her, recommened following intake and supplements if <60%
   SUBJ:
   Feels that breathing is improved but still not at baseline
   Allergies:
   Last dose of Antibiotics:
   Ceftriaxone - [**2204-12-28**] 12:00 PM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2204-12-28**] 04:00 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2204-12-29**] 08:04 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37
C (98.6
   Tcurrent: 36
C (96.8
   HR: 70 (69 - 102) bpm
   BP: 151/81(96){134/66(82) - 202/102(121)} mmHg
   RR: 17 (16 - 24) insp/min
   SpO2: 89%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 50.9 kg (admission): 49 kg
   Height: 63 Inch
             Total In:
                                                                  1,622 mL
                                                                    209 mL
   PO:
                                                                    600 mL
                                                                    130 mL
   TF:
   IVF:
                                                                  1,022 mL
                                                                     79 mL
   Blood products:
   Total out:
                                                                  2,372 mL
                                                                    185 mL
   Urine:
                                                                  2,372 mL
                                                                    185 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -750 mL
                                                                     24 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 89% on 2L
   ABG: 7.40/69/68//13
   Physical Examination
   General Appearance: frail, elderly
   Head, Ears, Nose, Throat: plethoric
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Not assessed), (Left DP pulse: Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Crackles :
   1/2way up b/l, Wheezes : scattered)
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right: Absent, Left: Absent
   Musculoskeletal: Muscle wasting
   Skin:  Not assessed
   Neurologic: Attentive, Responds to: Verbal stimuli, Movement: Not
   assessed, Tone: Not assessed
   Labs / Radiology
   432 K/uL
   13.0 g/dL
   99 mg/dL
   0.7 mg/dL
   40 mEq/L
   3.7 mEq/L
   35 mg/dL
   95 mEq/L
   138 mEq/L
   41.4 %
   18.4 K/uL
        [image002.jpg]
                             [**2204-12-25**]  04:25 AM
                             [**2204-12-26**]  02:06 AM
                             [**2204-12-26**]  04:56 AM
                             [**2204-12-26**]  05:51 AM
                             [**2204-12-26**]  05:36 PM
                             [**2204-12-27**]  04:32 AM
                             [**2204-12-27**]  07:52 AM
                             [**2204-12-28**]  03:11 AM
                             [**2204-12-28**]  12:58 PM
                             [**2204-12-29**]  06:43 AM
   WBC
   8.2
   17.6
   14.9
   18.2
   18.4
   Hct
   41.5
   37.9
   40.5
   42.1
   41.4
   Plt
   [**Telephone/Fax (3) 546**]82
   432
   Cr
   0.8
   0.7
   0.7
   0.8
   0.7
   TropT
   <0.01
   TCO2
   34
   36
   41
   44
   Glucose
   159
   148
   117
   150
   99
   Other labs: CK / CKMB / Troponin-T:21/4/<0.01, Differential-Neuts:94.8
   %, Lymph:2.4 %, Mono:2.6 %, Eos:0.1 %, Ca++:9.3 mg/dL, Mg++:2.2 mg/dL,
   PO4:3.2 mg/dL
   Imaging: none new
   Microbiology: none new
   [**2204-12-26**] 9:47 am SPUTUM     Site: EXPECTORATED
         Source: Expectorated.
                               **FINAL REPORT [**2204-12-28**]**
      GRAM STAIN (Final [**2204-12-26**]):
         <10 PMNs and <10 epithelial cells/100X field.
         NO MICROORGANISMS SEEN.
         QUALITY OF SPECIMEN CANNOT BE ASSESSED.
      RESPIRATORY CULTURE (Final [**2204-12-28**]):
         SPARSE GROWTH OROPHARYNGEAL FLORA.
   .
   [**2204-12-25**] 11:44 am URINE      Source: Catheter.
                               **FINAL REPORT [**2204-12-26**]**
      URINE CULTURE (Final [**2204-12-26**]):    NO GROWTH.
   Assessment and Plan
   61yo woman admitted with dyspnea in the setting of COPD and possible
   respiratory infection.
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name **])
 s/p extubation [**12-27**]. Not
   tenuous but still not at baseline, using accessory muscles to breathe
   -          improving, not tachypneic at rest, and at baseline O2
   requirement with sats 89-94%
 CHRONIC OBSTRUCTIVE PULMONARY DISEASE (COPD, BRONCHITIS, EMPHYSEMA)
   WITH ACUTE EXACERBATION
   -          continue prednisone 60mg daily, plan slow taper
   -          Continue atrovent (increase to q4h and levalbuterol.
   Montelukast, as well as flonase
   -          supplemental O2 per home regimen
   -          continue abx as below
 HYPERTENSION, BENIGN
   -          increased diltiazem to 90 qid and metoprolol to 37.5 tid on
   [**12-28**] for improved control, but still hypertensive
   -          would further increase metoprolol to 50 tid as tolerated by
   HR
   -          prn hydralazine if sbp > 160
 PNEUMONIA, BACTERIAL, COMMUNITY ACQUIRED (CAP)
   -          possible pneumonia on CXR; may have triggered worsening COPD
   -          ceftriaxone day 6 of [**9-10**] (Day 1 = [**12-24**] )
 H/O CORONARY ARTERY DISEASE (CAD, ISCHEMIC HEART DISEASE)
   -          continue plavix, statin
   -          ? not on ASA
 d/w PCP at future date
   -          started metoprolol, uptitrating
 Worsening metabolic alkalosis: chronic respiratory acidosis with
   compensatory metabolic alkalosis;
   -          On [**12-28**] had jump in HCO3- a chronic CO2 retainer - could also
   be do to volume contraction from diuresis
   -          Hold off on diuresis for now
 Osteoporosis:
   -          home medications, including Ca/Vit D and fentanyl patch,
   nortryptiline, percocet
   ICU Care
   Nutrition:
   Comments: regular diet, consider supplements per nutrition recs
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   18 Gauge - [**2204-12-24**] 06:09 PM
   22 Gauge - [**2204-12-26**] 03:07 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition: c/o to floor if remains at baseline  today

2204-12-29 11:11:00 Physician Attending Progress Note
Chief Complaint: SOB/Respiratory Failure
   I saw and examined the patient, and was physically present with the
   for key portions of the services provided.  I agree with his / her note
   above, including assessment and plan.
   HPI:
   61 yo women with severe COPD on home Oxygen, prior intubations,
   presented with SOB, increased sputum, presented to ED - started on
   steroids, abtx, oxygen and admitted to ICU on [**12-24**].  Respiratory status
   declined and was intubated.  Subseqently improved and extubated on
   [**12-27**].
   24 Hour Events:
   Yesterday got confused and tearful, steroids reduced.
   Otherwise respiratory status has been stable.  Feels better, but not
   back to baseline.
   Allergies:
   Last dose of Antibiotics:
   Ceftriaxone - [**2204-12-28**] 12:00 PM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2204-12-28**] 04:00 PM
   Other medications:
   simvastatin
   plavix
   fentanyl patch
   nortryptiline
   singulair
   MVI
   Flonase
   Tums
   Vitamin D
   SSI
   protonix
   atrovent
   diltiazem
   lopressor
   captopril
   prednisone 60mg
   percocet PRN
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Mild SOB, feels better   No Hypotension.  No ventilatory support.
   Flowsheet Data as of  [**2204-12-29**] 11:10 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37
C (98.6
   Tcurrent: 37
C (98.6
   HR: 73 (69 - 102) bpm
   BP: 139/66(83){134/66(82) - 202/102(121)} mmHg
   RR: 16 (16 - 24) insp/min
   SpO2: 93%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 50.9 kg (admission): 49 kg
   Height: 63 Inch
             Total In:
                                                                  1,622 mL
                                                                    339 mL
   PO:
                                                                    600 mL
                                                                    230 mL
   TF:
   IVF:
                                                                  1,022 mL
                                                                    109 mL
   Blood products:
   Total out:
                                                                  2,372 mL
                                                                    282 mL
   Urine:
                                                                  2,372 mL
                                                                    282 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -750 mL
                                                                     57 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 93%
   ABG: 7.40/69/68/42/13
   Physical Examination
   General Appearance: Thin
   Eyes / Conjunctiva: PERRL
   Lymphatic: Cervical WNL
   Cardiovascular: (S1: Normal, Absent)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Breath Sounds: Crackles : b/l , Wheezes :
   diffuse)
   Abdominal: Soft, Non-tender
   Extremities: Right: Absent, Left: Absent
   Musculoskeletal: Muscle wasting
   Skin:  Warm
   Neurologic: Attentive, Responds to voice,  Movement: Not assessed,
   Tone: Not assessed
   Labs / Radiology
   13.0 g/dL
   432 K/uL
   127 mg/dL
   0.6 mg/dL
   42 mEq/L
   4.0 mEq/L
   40 mg/dL
   94 mEq/L
   140 mEq/L
   41.4 %
   18.4 K/uL
         [image002.jpg]
                             [**2204-12-25**]  04:25 AM
                             [**2204-12-26**]  02:06 AM
                             [**2204-12-26**]  04:56 AM
                             [**2204-12-26**]  05:51 AM
                             [**2204-12-26**]  05:36 PM
                             [**2204-12-27**]  04:32 AM
                             [**2204-12-27**]  07:52 AM
                             [**2204-12-28**]  03:11 AM
                             [**2204-12-28**]  12:58 PM
                             [**2204-12-29**]  06:43 AM
   WBC
   8.2
   17.6
   14.9
   18.2
   18.4
   Hct
   41.5
   37.9
   40.5
   42.1
   41.4
   Plt
   [**Telephone/Fax (3) 546**]82
   432
   Cr
   0.8
   0.7
   0.7
   0.8
   0.7
   0.6
   TropT
   <0.01
   TCO2
   34
   36
   41
   44
   Glucose
   159
   148
   117
   150
   99
   127
   Other labs: CK / CKMB / Troponin-T:21/4/<0.01, Differential-Neuts:94.8
   %, Lymph:2.4 %, Mono:2.6 %, Eos:0.1 %, Ca++:8.9 mg/dL, Mg++:2.1 mg/dL,
   PO4:3.0 mg/dL
   Assessment and Plan
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name **])
   tachypneic, SOB using accesory muscles, I/E wheeze, confused, very
   anxious
   Some Improvement.  Still SOB, but weaned to nasal cannula.
 CHRONIC OBSTRUCTIVE PULMONARY DISEASE (COPD, BRONCHITIS, EMPHYSEMA)
   WITH ACUTE EXACERBATION
   i/e wheeze, ABG wihtin baseline, continues on xoponex and atrovent
 PNEUMONIA, BACTERIAL, COMMUNITY ACQUIRED (CAP)
   cont on antibiotics, afebrile, WBC stable.  Can start prednisone
   taper., CTX day [**5-7**].  Completed azithro course.
 HYPERTENSION, BENIGN
   BP 190's started on captopril, nitro paste; lopressor and diltiazem
   increased, 5mgs IV lopressor given
   Better controlled on multiple medications.
 TACHYCARDIA, OTHER  Better controlled
 .H/O CORONARY ARTERY DISEASE (CAD, ISCHEMIC HEART DISEASE)
 [**Last Name 121**] PROBLEM - ENTER DESCRIPTION IN COMMENTS
   Osteoporosis
   ICU Care
   Nutrition:
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   18 Gauge - [**2204-12-24**] 06:09 PM
   22 Gauge - [**2204-12-26**] 03:07 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 35 minutes

2204-12-30 08:24:00 Physician Resident Progress Note
Chief Complaint: dyspnea
   24 Hour Events:
   - sats in AM were 89-94% on baseline O2, but still working hard to
   breathe, was tachypneic simply moving in bed, so not called out
   - less confusion, improved mental status
   - episode of 13 beat NSVT
   Allergies:
   Last dose of Antibiotics:
   Ceftriaxone - [**2204-12-29**] 12:00 PM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2204-12-30**] 12:17 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: Hoping to get to floor so she can go home
   Cardiovascular: No(t) Chest pain
   Respiratory: breathing improving slowly
   Musculoskeletal: + back pain
   Flowsheet Data as of  [**2204-12-30**] 08:14 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.1
C (98.7
   Tcurrent: 36.4
C (97.6
   HR: 70 (64 - 89) bpm
   BP: 165/82(102){139/65(82) - 182/94(110)} mmHg
   RR: 23 (16 - 29) insp/min
   SpO2: 94%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 50.9 kg (admission): 49 kg
   Height: 63 Inch
             Total In:
                                                                    800 mL
                                                                     81 mL
   PO:
                                                                    510 mL
             TF:
   IVF:
                                                                    290 mL
                                                                     81 mL
   Blood products:
   Total out:
                                                                    697 mL
                                                                    450 mL
   Urine:
                                                                    697 mL
                                                                    450 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    103 mL
                                                                   -369 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 94%
   ABG: ///39/
   PaO2 / FiO2: 2L NC
   Physical Examination
   General Appearance: +Work of breathing, appears frustrated
   Head, Ears, Nose, Throat: Mucous membranes moist; no thrush
   Cardiovascular: (S1: Normal), (S2: Normal), no longer tachycardic, no
   murmur
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Breath Sounds: Wheezes : , Rhonchorous: ), still
   somewhat tight; dyspneic with talking or moving in bed
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: +Pneumoboots; no LE edema
   Musculoskeletal: Muscle wasting
   Skin:  Not assessed
   Neurologic: Attentive, Responds to: Not assessed, Oriented (to): place,
   person, time, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   391 K/uL
   13.6 g/dL
   104 mg/dL
   0.6 mg/dL
   39 mEq/L
   4.2 mEq/L
   32 mg/dL
   97 mEq/L
   142 mEq/L
   43.7 %
   17.7 K/uL
        [image002.jpg]
                             [**2204-12-26**]  02:06 AM
                             [**2204-12-26**]  04:56 AM
                             [**2204-12-26**]  05:51 AM
                             [**2204-12-26**]  05:36 PM
                             [**2204-12-27**]  04:32 AM
                             [**2204-12-27**]  07:52 AM
                             [**2204-12-28**]  03:11 AM
                             [**2204-12-28**]  12:58 PM
                             [**2204-12-29**]  06:43 AM
                             [**2204-12-30**]  03:46 AM
   WBC
   17.6
   14.9
   18.2
   18.4
   17.7
   Hct
   37.9
   40.5
   42.1
   41.4
   43.7
   Plt
   342
   389
   382
   432
   391
   Cr
   0.7
   0.7
   0.8
   0.7
   0.6
   0.6
   TCO2
   34
   36
   41
   44
   Glucose
   148
   117
   150
   99
   127
   104
   Other labs: CK / CKMB / Troponin-T:21/4/<0.01, Differential-Neuts:94.8
   %, Lymph:2.4 %, Mono:2.6 %, Eos:0.1 %, Ca++:9.3 mg/dL, Mg++:2.1 mg/dL,
   PO4:2.4 mg/dL
   Microbiology: Respiratory Cx [**12-26**]:
   SPARSE GROWTH OROPHARYNGEAL FLORA.
   Assessment and Plan
   61yo woman admitted with dyspnea in the setting of worsening COPD and
   possible pulmonary infection.
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name **])
   -          s/p extubation [**12-27**], at baseline O2 requirement but dyspneic
   with the slightest activity
   -          continue treatment of COPD and pneumonia as below
 CHRONIC OBSTRUCTIVE PULMONARY DISEASE (COPD, BRONCHITIS, EMPHYSEMA)
   WITH ACUTE EXACERBATION
   -          taper prednisone to 40mg tomorrow
   -          continue atrovent, levalbuterol, flonase, singulair;
   increase levalbuterol to q2h
   -          Abx as below
   -          Increase suctioning to clear airways
   -          Not a candidate for pulmonary toilet b/c of bad osteoporosis
   -          Treat anxiety as it appears to be contributing to dyspnea
   and HTN; start zyprexa [**Hospital1 **]
 PNEUMONIA, BACTERIAL, COMMUNITY ACQUIRED (CAP)
   -          continue ceftriaxone day 7 of [**9-10**] (day 1 = [**12-24**])
   -          leukocytosis most likely from steroids and not from
   infection given that she has no fevers
 HYPERTENSION, BENIGN
   BP 190's started on captopril, nitro paste; lopressor and diltiazem
   increased, 5mgs IV lopressor given
   -          improved BP control yesterday, but still in 160s-180s
   systolic
   -          increase metoprolol and captopril to 50 TID today
   -          hydralazine PRN for SBP > 160
   -          ? [**12-29**] to steroids given that she is not on
   anti-hypertensives at baseline
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF):  Cr at baseline
   (0.6); resolved
   -          would aim for even I/Os
 TACHYCARDIA, OTHER:  resolved on beta blocker and diltiazem
 .H/O CORONARY ARTERY DISEASE (CAD, ISCHEMIC HEART DISEASE)
   -          continue statin, plavix; now on beta blocker and ACE I
   -          not on ASA as outpatient--? b/c of h/o gastric ulcer; will
   discuss with PCP
 [**Last Name 121**] PROBLEM - ENTER DESCRIPTION IN COMMENTS
   Osteoporosis:
   - home meds, including Ca, Vit D, fentanyl patch, percocet,
   nortryptiline
   ICU Care
   Nutrition:
   Comments: Regular diet with ensure
   Glycemic Control:  Regular insulin sliding scale, Blood sugar well
   controlled
   Lines:
   18 Gauge - [**2204-12-24**] 06:09 PM
   22 Gauge - [**2204-12-26**] 03:07 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments: Family meeting held with both daughters;
   patient discussed on team rounds
   Code status: Full code
   Disposition: continue ICU level care

2204-12-30 12:11:00 Physician Attending Progress Note
Chief Complaint: respiratory failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   Severe COPD exacerbation, s/p extubation.
   24 Hour Events:
   Still SOB intermittently , but slow improvement overall
   Allergies:
   Last dose of Antibiotics:
   Ceftriaxone - [**2204-12-29**] 12:00 PM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2204-12-30**] 12:17 AM
   Other medications:
   simvastatin
   plavix
   fentanyl patch
   nortryptiliine
   singulair
   MVI
   paxil
   flonase
   CaCO3
   Vitamin D
   SSI
   Protonix
   Diltiazem
   lopressor
   Captropril
   Atrovent
   Prednisone 60mg
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2204-12-30**] 12:10 PM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.1
C (98.7
   Tcurrent: 36.4
C (97.6
   HR: 92 (64 - 92) bpm
   BP: 160/69(91){132/65(82) - 182/97(110)} mmHg
   RR: 27 (17 - 29) insp/min
   SpO2: 94%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 50.9 kg (admission): 49 kg
   Height: 63 Inch
             Total In:
                                                                    800 mL
                                                                    239 mL
   PO:
                                                                    510 mL
                                                                    120 mL
   TF:
   IVF:
                                                                    290 mL
                                                                    119 mL
   Blood products:
   Total out:
                                                                    697 mL
                                                                    532 mL
   Urine:
                                                                    697 mL
                                                                    532 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    103 mL
                                                                   -293 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 94%
   ABG: ///39/
   Physical Examination
   General Appearance: Thin
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Lymphatic: Cervical WNL
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Paradoxical), (Breath Sounds:
   Rhonchorous: slightly )
   Abdominal: Soft, Bowel sounds present
   Extremities: Right: Absent, Left: Absent
   Musculoskeletal: Muscle wasting
   Skin:  Warm
   Neurologic: Attentive, Responds to: Not assessed, Oriented (to): times
   3 , Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   13.6 g/dL
   391 K/uL
   104 mg/dL
   0.6 mg/dL
   39 mEq/L
   4.2 mEq/L
   32 mg/dL
   97 mEq/L
   142 mEq/L
   43.7 %
   17.7 K/uL
        [image002.jpg]
                             [**2204-12-26**]  02:06 AM
                             [**2204-12-26**]  04:56 AM
                             [**2204-12-26**]  05:51 AM
                             [**2204-12-26**]  05:36 PM
                             [**2204-12-27**]  04:32 AM
                             [**2204-12-27**]  07:52 AM
                             [**2204-12-28**]  03:11 AM
                             [**2204-12-28**]  12:58 PM
                             [**2204-12-29**]  06:43 AM
                             [**2204-12-30**]  03:46 AM
   WBC
   17.6
   14.9
   18.2
   18.4
   17.7
   Hct
   37.9
   40.5
   42.1
   41.4
   43.7
   Plt
   342
   389
   382
   432
   391
   Cr
   0.7
   0.7
   0.8
   0.7
   0.6
   0.6
   TCO2
   34
   36
   41
   44
   Glucose
   148
   117
   150
   99
   127
   104
   Other labs: CK / CKMB / Troponin-T:21/4/<0.01, Differential-Neuts:94.8
   %, Lymph:2.4 %, Mono:2.6 %, Eos:0.1 %, Ca++:9.3 mg/dL, Mg++:2.1 mg/dL,
   PO4:2.4 mg/dL
   Assessment and Plan
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name **])
   tachypneic, SOB using accesory muscles, I/E wheeze, confused, very
   anxious
 CHRONIC OBSTRUCTIVE PULMONARY DISEASE (COPD, BRONCHITIS, EMPHYSEMA)
   WITH ACUTE EXACERBATION
   i/e wheeze, ABG wihtin baseline, continues on xoponex and atrovent
 PNEUMONIA, BACTERIAL, COMMUNITY ACQUIRED (CAP)
   cont on antibiotics, afebrile, WBC trending up
 HYPERTENSION, BENIGN
   BP 190's started on captopril, nitro paste; lopressor and diltiazem
   increased, 5mgs IV lopressor given
   Improved control.  Can increase lopressor.
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
 .H/O CORONARY ARTERY DISEASE (CAD, ISCHEMIC HEART DISEASE)
 [**Last Name 121**] PROBLEM - ENTER DESCRIPTION IN COMMENTS
   Osteoporosis
   Still intermittently extremely short of breath.  There seems to be
   prominent component of anxiety.
   Will add Zyprexa for anxiety/agititation and also wean prednisone to
   40mg.
   ICU Care
   Nutrition:
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   18 Gauge - [**2204-12-24**] 06:09 PM
   22 Gauge - [**2204-12-26**] 03:07 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 35 minutes

2204-12-31 07:47:00 Physician Resident Progress Note
Chief Complaint: 61F with COPD exacerbation
   24 Hour Events:
   - Started Zyprexa b/c of continued agitation and anxiety; helped
   somewhat
   - Met with patient and her daughters to explain why still in ICU
   - Increased dose of metoprolol; pt required one-time dose of
   hydralazine with good BP response
   - Decided to increase rate of prednisone taper (to get 40mg tomorrow)
   - Increased suctioning with lots of thick yellow secretions
   Allergies:
   Antibiotics:
   Ceftriaxone 1g IV daily day 8
   Other ICU medications:
   Hydralazine - [**2204-12-30**] 06:28 PM
   Other medications:
   Ipratropium
   Levalbuterol
   Olanzapine, Paroxetine
   Metoprolol 50mg PO TID
   Prednisone 30 mg daily on taper
   Captopril 37.5mg PO TID
   Diltiazem 90mg PO QID
   Protonix
   Fluticasone, Montelukast
   Nortriptyline
   Fentanyl patch
   Plavix 75 daily, simvastatin
   SQ heparin
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Respiratory: Cough, Dyspnea, Wheeze, improved
   Neurologic: anxious
   Flowsheet Data as of  [**2204-12-31**] 07:45 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.8
C (98.2
   Tcurrent: 36.4
C (97.6
   HR: 68 (62 - 95) bpm
   BP: 154/67(87){132/58(78) - 187/104(112)} mmHg
   RR: 23 (17 - 30) insp/min
   SpO2: 94% on 2L NC
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 50.9 kg (admission): 49 kg
   Height: 63 Inch
             Total In:
                                                                    652 mL
                                                                    343 mL
   PO:
                                                                    360 mL
                                                                     75 mL
   TF:
   IVF:
                                                                    292 mL
                                                                    268 mL
   Blood products:
   Total out:
                                                                  1,115 mL
                                                                    410 mL
   Urine:
                                                                  1,115 mL
                                                                    410 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -463 mL
                                                                    -67 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 94%
   ABG: ////
   Physical Examination
   General Appearance: Anxious
   Cardiovascular: (S1: Normal), (S2: Normal), No(t) S3, No(t) S4, No(t)
   Rub, (Murmur: No(t) Systolic, No(t) Diastolic)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Breath Sounds: Crackles : bilateral, Wheezes :
   few)
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right: Absent, Left: Absent
   Skin:  Warm
   Neurologic: Attentive, Responds to: Not assessed, Oriented (to): x3,
   Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   377 K/uL
   14.4 g/dL
   104 mg/dL
   0.6 mg/dL
   39 mEq/L
   4.2 mEq/L
   32 mg/dL
   97 mEq/L
   142 mEq/L
   46.5 %
   17.9 K/uL
        [image002.jpg]
   CXR no recent chest film
   Micro
   [**12-24**] blood cx x2 negative
   [**12-25**] urine cx negative
   [**12-26**] sputum gram <10 polys no organisms on gram, culture with sparse
   growth oropharyngeal flora
                             [**2204-12-26**]  04:56 AM
                             [**2204-12-26**]  05:51 AM
                             [**2204-12-26**]  05:36 PM
                             [**2204-12-27**]  04:32 AM
                             [**2204-12-27**]  07:52 AM
                             [**2204-12-28**]  03:11 AM
                             [**2204-12-28**]  12:58 PM
                             [**2204-12-29**]  06:43 AM
                             [**2204-12-30**]  03:46 AM
                             [**2204-12-31**]  05:07 AM
   WBC
   17.6
   14.9
   18.2
   18.4
   17.7
   17.9
   Hct
   37.9
   40.5
   42.1
   41.4
   43.7
   46.5
   Plt
   342
   389
   382
   [**Telephone/Fax (3) 628**]
   Cr
   0.7
   0.8
   0.7
   0.6
   0.6
   TCO2
   34
   36
   41
   44
   Glucose
   117
   150
   99
   127
   104
   Other labs: CK / CKMB / Troponin-T:21/4/<0.01, Differential-Neuts:94.8
   %, Lymph:2.4 %, Mono:2.6 %, Eos:0.1 %, Ca++:9.3 mg/dL, Mg++:2.1 mg/dL,
   PO4:2.4 mg/dL
   Assessment and Plan
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name **])
   -          s/p extubation [**12-27**], at baseline O2 requirement but dyspneic
   with the minimal activity
   -          continue treatment of COPD and pneumonia as below
 CHRONIC OBSTRUCTIVE PULMONARY DISEASE (COPD, BRONCHITIS, EMPHYSEMA)
   WITH ACUTE EXACERBATION
   -          continue prednisone taper, bronchodilators, singulair and
   flonase
   -          Treat anxiety as it appears to be contributing to dyspnea
   and HTN; zyprexa [**Hospital1 **]
 PNEUMONIA, BACTERIAL, COMMUNITY ACQUIRED (CAP)
   -          continue ceftriaxone day 8 of 10 day course (day 1 = [**12-24**]),
   s/p azithromycin x5 days
   -          leukocytosis most likely from steroids and not from
   infection
   -          reculture if febrile
 HYPERTENSION, BENIGN
   Improved BP control yesterday, but still up to 180s systolic
   -          continue metoprolol, captopril, diltiazem with prn
   hydralazine
   -          ? [**12-29**] to steroids and anxiety given that she is not on
   anti-hypertensives at baseline
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF):  Cr at baseline
   (0.6); resolved follow urine output
 TACHYCARDIA, OTHER:  Resolve with CCB/beta blocker
 .H/O CORONARY ARTERY DISEASE (CAD, ISCHEMIC HEART DISEASE)
   -          continue statin, plavix; now on beta blocker and ACE I
   -          not on ASA as outpatient--? b/c of h/o gastric ulcer; will
   discuss with PCP
   ICU [**Name9 (PRE) **]
   Nutrition: regular
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   22 Gauge - [**2204-12-26**] 03:07 PM
   Prophylaxis:
   DVT: SQ heparin
   Stress ulcer: PPI
   VAP:  n/a
   Communication:
   Code status: Full code
   Disposition:Transfer to floor

2204-12-31 11:24:00 Physician Attending Progress Note
Chief Complaint: Respiratory failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   OOB this am
   24 Hour Events:
   History obtained from [**Hospital 85**] Medical records
   Allergies:
   Last dose of Antibiotics:
   Ceftriaxone - [**2204-12-30**] 02:00 PM
   Infusions:
   Other ICU medications:
   Hydralazine - [**2204-12-30**] 06:28 PM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Respiratory: Dyspnea, Tachypnea
   Heme / Lymph: Anemia
   Psychiatric / Sleep: Delirious
   Flowsheet Data as of  [**2204-12-31**] 11:23 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.8
C (98.2
   Tcurrent: 36.4
C (97.6
   HR: 82 (59 - 95) bpm
   BP: 152/65(83){135/58(78) - 187/104(112)} mmHg
   RR: 19 (14 - 30) insp/min
   SpO2: 94%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 50.9 kg (admission): 49 kg
   Height: 63 Inch
             Total In:
                                                                    652 mL
                                                                    499 mL
   PO:
                                                                    360 mL
                                                                    195 mL
   TF:
   IVF:
                                                                    292 mL
                                                                    304 mL
   Blood products:
   Total out:
                                                                  1,115 mL
                                                                    510 mL
   Urine:
                                                                  1,115 mL
                                                                    510 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -463 mL
                                                                    -11 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 94%
   ABG: ////
   Physical Examination
   General Appearance: frail
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Lymphatic: Cervical WNL
   Cardiovascular: (S1: Normal), (S2: Normal), (Murmur: Systolic)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Not assessed), (Left DP pulse: Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Percussion:
   Hyperresonant: ), (Breath Sounds: Crackles : mid-insp, Diminished: )
   Abdominal: Soft, Bowel sounds present
   Extremities: Right: Absent, Left: Absent
   Musculoskeletal: Muscle wasting, Unable to stand
   Skin:  Warm
   Neurologic: Attentive, Follows simple commands, Responds to: Not
   assessed, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   14.4 g/dL
   377 K/uL
   104 mg/dL
   0.6 mg/dL
   39 mEq/L
   4.2 mEq/L
   32 mg/dL
   97 mEq/L
   142 mEq/L
   46.5 %
   17.9 K/uL
        [image002.jpg]
                             [**2204-12-26**]  04:56 AM
                             [**2204-12-26**]  05:51 AM
                             [**2204-12-26**]  05:36 PM
                             [**2204-12-27**]  04:32 AM
                             [**2204-12-27**]  07:52 AM
                             [**2204-12-28**]  03:11 AM
                             [**2204-12-28**]  12:58 PM
                             [**2204-12-29**]  06:43 AM
                             [**2204-12-30**]  03:46 AM
                             [**2204-12-31**]  05:07 AM
   WBC
   17.6
   14.9
   18.2
   18.4
   17.7
   17.9
   Hct
   37.9
   40.5
   42.1
   41.4
   43.7
   46.5
   Plt
   342
   389
   382
   [**Telephone/Fax (3) 628**]
   Cr
   0.7
   0.8
   0.7
   0.6
   0.6
   TCO2
   34
   36
   41
   44
   Glucose
   117
   150
   99
   127
   104
   Other labs: CK / CKMB / Troponin-T:21/4/<0.01, Differential-Neuts:94.8
   %, Lymph:2.4 %, Mono:2.6 %, Eos:0.1 %, Ca++:9.3 mg/dL, Mg++:2.1 mg/dL,
   PO4:2.4 mg/dL
   Assessment and Plan
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name **])
   anxious but somewhat better with Zyprexa
 CHRONIC OBSTRUCTIVE PULMONARY DISEASE (COPD, BRONCHITIS, EMPHYSEMA)
   WITH ACUTE EXACERBATION
   continues on xoponex and atrovent
 PNEUMONIA, BACTERIAL, COMMUNITY ACQUIRED (CAP)
   cont on antibiotics, afebrile
 HYPERTENSION, BENIGN
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF) - resolved
 TACHYCARDIA, OTHER
 .H/O CORONARY ARTERY DISEASE (CAD, ISCHEMIC HEART DISEASE)
 [**Last Name 121**] PROBLEM - ENTER DESCRIPTION IN COMMENTS
   Osteoporosis
   ICU Care
   Nutrition:
   Glycemic Control:  SSI on steroid taper
   Lines:
   22 Gauge - [**2204-12-26**] 03:07 PM
   Prophylaxis:
   DVT:  sq heparin
   Stress ulcer:  PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition : Rehab or floor
   Total time spent:  35

2205-01-01 07:36:00 Physician Resident Progress Note
Chief Complaint: dyspnea
   24 Hour Events:
   Continued to be very confused over the course of the day requiring
   zyprexa, haldol. Placed in restraints overnight.
   CXR obtained due to tachypnea showed atelectasis
   PCP came by to see; pt admitted having visual hallucinations to her
   Awaiting PT evaluation
   Subjective:
   Feels breathing is improving
   Denied further visual hallucinations
   Repeatedly asking to get up/change positions/move
   Allergies:
   Last dose of Antibiotics:
   Ceftriaxone - [**2204-12-30**] 02:00 PM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2204-12-31**] 11:53 PM
   Haloperidol (Haldol) - [**2205-1-1**] 12:15 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2205-1-1**] 07:35 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.6
C (97.9
   Tcurrent: 36.5
C (97.7
   HR: 84 (59 - 85) bpm
   BP: 173/65(87){102/62(47) - 177/97(128)} mmHg
   RR: 17 (14 - 31) insp/min
   SpO2: 95%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 50.9 kg (admission): 49 kg
   Height: 63 Inch
                  Total In:
                                                                    997 mL
                                                                    100 mL
   PO:
                                                                    585 mL
                                                                    100 mL
   TF:
   IVF:
                                                                    412 mL
   Blood products:
   Total out:
                                                                    885 mL
                                                                    220 mL
   Urine:
                                                                    885 mL
                                                                    220 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    112 mL
                                                                   -120 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 95%
   ABG: 7.44/61/62//13
   Physical Examination
   General Appearance: Anxious, Sitting in chair by bed, restrained.
   Easily distractable
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Mucous membranes dry
   Cardiovascular: (S1: Normal), (S2: Normal, Distant)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Crackles :
   , Wheezes : ), not particularly tight; not using accessory muscles to
   breathe
   Abdominal: Soft, Non-tender, Bowel sounds present, appears distended
   [**12-29**] kyphosis
   Extremities: No LE edema
   Skin:  Not assessed, Rash: macules on feet improving
   Neurologic: Responds to: Not assessed, Oriented (to): person and date,
   but thinks she's at an airport, Movement: Not assessed, Tone: Not
   assessed
   Labs / Radiology
   377 K/uL
   14.4 g/dL
   104 mg/dL
   0.5 mg/dL
   38 mEq/L
   3.9 mEq/L
   31 mg/dL
   95 mEq/L
   141 mEq/L
   46.5 %
   17.9 K/uL
        [image002.jpg]
                             [**2204-12-26**]  05:51 AM
                             [**2204-12-26**]  05:36 PM
                             [**2204-12-27**]  04:32 AM
                             [**2204-12-27**]  07:52 AM
                             [**2204-12-28**]  03:11 AM
                             [**2204-12-28**]  12:58 PM
                             [**2204-12-29**]  06:43 AM
                             [**2204-12-30**]  03:46 AM
                             [**2204-12-31**]  05:07 AM
                             [**2204-12-31**]  01:22 PM
   WBC
   14.9
   18.2
   18.4
   17.7
   17.9
   Hct
   40.5
   42.1
   41.4
   43.7
   46.5
   Plt
   389
   382
   432
   391
   377
   Cr
   0.8
   0.7
   0.6
   0.6
   0.5
   TCO2
   34
   36
   41
   44
   43
   Glucose
   150
   99
   127
   104
   104
   Other labs: CK / CKMB / Troponin-T:21/4/<0.01, Differential-Neuts:94.8
   %, Lymph:2.4 %, Mono:2.6 %, Eos:0.1 %, Ca++:9.6 mg/dL, Mg++:2.1 mg/dL,
   PO4:3.1 mg/dL
   Imaging: CXR [**12-31**]:
   Bibasilar linear opacities, most suggestive of atelectasis.
   Multiple old rib fractures bilaterally
   Microbiology: Blood, urine, and sputum Cx negative
   Assessment and Plan
   61yo woman with COPD admitted with respiratory failure, now extubated.
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name **])
   -          continues to have episodes of tachypnea and respiratory
   distress
   -          continue prednisone taper
   -          bronchodilators, singulair, flonase, frequent suctioning
   -          treat anxiety as below
   # Delirium:
   -          most likely has developed delirium from steroids, acute
   illness, hospitalization with disturbance of sleep/wake cycle
   -          continue steroid taper
   -          has prolonged QT; give zyprexa [**Hospital1 **] and haldol PRN; avoid
   additional zyprexa
   -          monitor EKG
 PNEUMONIA, BACTERIAL, COMMUNITY ACQUIRED (CAP)
   cont on antibiotics, afebrile, WBC trending up
   -          s/p treatment with azithromycin and ceftriaxone
 HYPERTENSION, BENIGN
   -          BP volatile in setting of episodes of agitation
   -          Continue current management with ACE I, beta blocker, and
   CCB; hydralazine PRN SBP > 160
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF):  resolved
 TACHYCARDIA, OTHER:  resolved
 .H/O CORONARY ARTERY DISEASE (CAD, ISCHEMIC HEART DISEASE):
   -          appreciate PCP note clarifying that pt is not on ASA
   -          continue plavix, statin, beta blocker, ACE I
 [**Last Name 121**] PROBLEM - ENTER DESCRIPTION IN COMMENTS
   Osteoporosis
   -          continue outpatient management\
   ICU Care
   Nutrition:
   Comments: low sodium diet
   Glycemic Control:  Regular insulin sliding scale, Blood sugar well
   controlled
   Lines:
   22 Gauge - [**2204-12-31**] 12:28 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: PPI
   VAP:
   Need for restraints reviewed
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition: ICU ; eventual placement at respiratory rehab once mental
   status improved

2205-01-01 12:01:00 Physician Attending Progress Note
Chief Complaint: Respiratory failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   confused overnight requiring restraints
   24 Hour Events:
   History obtained from [**Hospital 85**] Medical records
   Patient unable to provide history: Encephalopathy
   Allergies:
   Tetracyclines
   Unknown;
   Last dose of Antibiotics:
   Ceftriaxone - [**2204-12-30**] 02:00 PM
   Infusions:
   Other ICU medications:
   Haloperidol (Haldol) - [**2205-1-1**] 12:15 AM
   Heparin Sodium (Prophylaxis) - [**2205-1-1**] 09:32 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: Fatigue
   Respiratory: Dyspnea, Wheeze
   Psychiatric / Sleep: Agitated, Delirious
   Signs or concerns for abuse : No
   Pain: No pain / appears comfortable
   Flowsheet Data as of  [**2205-1-1**] 12:01 PM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.6
C (97.9
   Tcurrent: 36.4
C (97.6
   HR: 73 (64 - 94) bpm
   BP: 155/82(99){102/62(47) - 177/97(128)} mmHg
   RR: 22 (16 - 31) insp/min
   SpO2: 99%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 50.9 kg (admission): 49 kg
   Height: 63 Inch
                  Total In:
                                                                    997 mL
                                                                    220 mL
   PO:
                                                                    585 mL
                                                                    220 mL
   TF:
   IVF:
                                                                    412 mL
   Blood products:
   Total out:
                                                                    885 mL
                                                                    500 mL
   Urine:
                                                                    885 mL
                                                                    500 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    112 mL
                                                                   -280 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 99%
   ABG: 7.44/61/62/30/13
   Physical Examination
   General Appearance: frail
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Lymphatic: Cervical WNL
   Cardiovascular: (S1: Normal), (S2: Normal), (Murmur: Systolic)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Not assessed), (Left DP pulse: Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Percussion:
   Hyperresonant: ), (Breath Sounds: Crackles : mid ins. prolonged
   exhalation, Wheezes : few)
   Abdominal: Soft, Bowel sounds present
   Extremities: Right: Trace, Left: Trace, No(t) Cyanosis, No(t) Clubbing
   Musculoskeletal: Muscle wasting, Unable to stand
   Skin:  Warm, ecchymoses
   Neurologic: Attentive, Follows simple commands, Responds to: Not
   assessed, Oriented (to): person, Movement: Not assessed, Tone: Not
   assessed
   Labs / Radiology
   14.5 g/dL
   370 K/uL
   88 mg/dL
   0.7 mg/dL
   30 mEq/L
   3.9 mEq/L
   31 mg/dL
   97 mEq/L
   138 mEq/L
   45.4 %
   17.0 K/uL
        [image002.jpg]
                             [**2204-12-26**]  05:36 PM
                             [**2204-12-27**]  04:32 AM
                             [**2204-12-27**]  07:52 AM
                             [**2204-12-28**]  03:11 AM
                             [**2204-12-28**]  12:58 PM
                             [**2204-12-29**]  06:43 AM
                             [**2204-12-30**]  03:46 AM
                             [**2204-12-31**]  05:07 AM
                             [**2204-12-31**]  01:22 PM
                             [**2205-1-1**]  06:30 AM
   WBC
   14.9
   18.2
   18.4
   17.7
   17.9
   17.0
   Hct
   40.5
   42.1
   41.4
   43.7
   46.5
   45.4
   Plt
   389
   382
   432
   391
   377
   370
   Cr
   0.8
   0.7
   0.6
   0.6
   0.5
   0.7
   TCO2
   36
   41
   44
   43
   Glucose
   150
   99
   127
   104
   104
   88
   Other labs: CK / CKMB / Troponin-T:21/4/<0.01, Differential-Neuts:94.8
   %, Lymph:2.4 %, Mono:2.6 %, Eos:0.1 %, Ca++:9.6 mg/dL, Mg++:2.1 mg/dL,
   PO4:3.1 mg/dL
   Assessment and Plan
 DELIRIUM / CONFUSION likely a consequence of steroid rx. We are
   tapering rapidly as her breathing tolerates.  Trying to reorient and
   manage confusion with Zyprexa and Haldol. Will d/c prn Zyprexa and
   follow QTc
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name **])
   Now improved.
 CHRONIC OBSTRUCTIVE PULMONARY DISEASE (COPD, BRONCHITIS, EMPHYSEMA)
   WITH ACUTE EXACERBATION tapering setroids aggressively. Remains on
   MDIs.
   i/e wheeze, ABG wihtin baseline, continues on xoponex and atrovent
 TACHYCARDIA, OTHER - now controlled
 .H/O CORONARY ARTERY DISEASE (CAD, ISCHEMIC HEART DISEASE) - no
   episodes of ischemia
 [**Last Name 121**] PROBLEM - ENTER DESCRIPTION IN COMMENTS
   Osteoporosis
   ICU Care
   Nutrition:
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: PPI
   VAP:
   Need for restraints reviewed
   Comments:
   Communication: Patient discussed on interdisciplinary rounds , ICU
   Code status: Full code
   Disposition :ICU
   Total time spent: 35 minutes

2205-01-02 07:54:00 Physician Resident Progress Note
Chief Complaint: Dyspnea, now with delirium
   24 Hour Events:
   continued to be agitated
   ABG done to check for CO2 retention, unchanged
   Had increased NC oxygen during day but able to wean back down to 2L
   Got 0.5mg Haldol overnight for agitation (tried the patient care
   channel first)
   sugar was 65 this AM, gave [**11-28**] amp Dextrose
   EKG not done
   PT eval not done [**12-29**] agitation
   Allergies:
   Tetracyclines
   Unknown;
   Last dose of Antibiotics:
   Ceftriaxone - [**2204-12-30**] 02:00 PM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2205-1-2**] 12:32 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2205-1-2**] 07:53 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.9
C (98.4
   Tcurrent: 36.6
C (97.9
   HR: 58 (48 - 94) bpm
   BP: 121/56(71){94/44(59) - 178/91(101)} mmHg
   RR: 9 (8 - 29) insp/min
   SpO2: 100%
   Heart rhythm: SB (Sinus Bradycardia)
   Wgt (current): 50.9 kg (admission): 49 kg
   Height: 63 Inch
                  Total In:
                                                                    620 mL
                  PO:
                                                                    620 mL
                  TF:
   IVF:
   Blood products:
   Total out:
                                                                  1,240 mL
                                                                    210 mL
   Urine:
                                                                  1,240 mL
                                                                    210 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -620 mL
                                                                   -210 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 100%
   ABG: 7.45/61/60/39/14
   PaO2 / FiO2: 2L
   Physical Examination
   General Appearance: Calmer, oriented to person and place. Smiling,
   somewhat confused but redirectable.
   Head, Ears, Nose, Throat: Mucous membranes moist
   Cardiovascular: (S1: Normal), (S2: Normal), regular, no murmur
   Respiratory / Chest: (Expansion: Symmetric),+ mid-inspiratory crackles;
   moving air well, no accessory muscle use
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: No LE edema
   Labs / Radiology
   275 K/uL
   11.2 g/dL
   72 mg/dL
   0.5 mg/dL
   39 mEq/L
   3.1 mEq/L
   30 mg/dL
   99 mEq/L
   142 mEq/L
   35.6 %
   14.5 K/uL
        [image002.jpg]
                             [**2204-12-27**]  07:52 AM
                             [**2204-12-28**]  03:11 AM
                             [**2204-12-28**]  12:58 PM
                             [**2204-12-29**]  06:43 AM
                             [**2204-12-30**]  03:46 AM
                             [**2204-12-31**]  05:07 AM
                             [**2204-12-31**]  01:22 PM
                             [**2205-1-1**]  06:30 AM
                             [**2205-1-1**]  01:36 PM
                             [**2205-1-2**]  04:14 AM
   WBC
   18.2
   18.4
   17.7
   17.9
   17.0
   14.5
   Hct
   42.1
   41.4
   43.7
   46.5
   45.4
   35.6
   Plt
   382
   432
   391
   377
   370
   275
   Cr
   0.7
   0.6
   0.6
   0.5
   0.7
   0.5
   TCO2
   41
   44
   43
   44
   Glucose
   99
   127
   104
   104
   88
   72
   Other labs: CK / CKMB / Troponin-T:21/4/<0.01, Differential-Neuts:94.8
   %, Lymph:2.4 %, Mono:2.6 %, Eos:0.1 %, Ca++:8.6 mg/dL, Mg++:1.8 mg/dL,
   PO4:3.7 mg/dL
   EKG:  NSR with QTc 480
   CXR [**1-2**]:
   Lateral aspect of the left lower chest is excluded from the examination
   .
   While there is some obscuration by overlying chest cage there may be ne
   w right
   perihilar consolidation.  Lateral aspect of the left lower chest is exc
   luded
   from the examination.  Multiple healed rib fractures are seen on both s
   ides of
   the chest.  The heart is borderline enlarged.  There is no abnormality
   of the
   imaged pleural surfaces.  Thoracic aorta is tortuous but not focally di
   lated.
   No pneumothorax.
   Assessment and Plan
   A/P: 61yo woman with COPD admitted with respiratory distress who
   developed delirium while on steroids.
 DELIRIUM / CONFUSION
   -          improving with tapering steroid dose;  continue to taper
   steroids to 10mg daily (which is her baseline dose) tomorrow so long as
   it is tolerated by her respiratory status
   -          hold nortriptyline while confused
   -          currently not requiring restraints
   -          redirect as needed, monitor closely
   -          continue zyprexa [**Hospital1 **] and give haldol only if needed
   -          monitor QTc closely while on QT prolonging agents
   # Hematuria and Hct drop:
   - repeat Hct and send T+S
   - send UA, though of note, UA on admission showed large blood
   - do not suspect other source of bleeding as coags normal, no risk
   factors for retroperitoneal bleed, but monitor exam and Hct closely
   - stool OB negative
   # Hypoglycemia:
   -          most likely from decreasing insulin requirement as steroids
   tapered
   -          decrease doses of insulin sliding scale
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name **])
   Now improved.
 CHRONIC OBSTRUCTIVE PULMONARY DISEASE (COPD, BRONCHITIS, EMPHYSEMA)
   WITH ACUTE EXACERBATION
   -          s/p antibiotics for possible infection
   -          continue bronchodilators, singulair, flonase, suctioning
   -          at baseline O2 requirement
   -          prednisone taper as above
 .H/O CORONARY ARTERY DISEASE (CAD, ISCHEMIC HEART DISEASE)
   -          continue plavix, statin, beta blocker, ACE I
   -          not on ASA per home PCP
 [**Last Name 121**] PROBLEM - ENTER DESCRIPTION IN COMMENTS
   Osteoporosis
   -          continue outpatient management
   ICU Care
   Nutrition:
   Comments: low sodium diet
   Glycemic Control:  Regular insulin sliding scale, Comments: will make
   insulin sliding scale less aggressive
   Lines:
   20 Gauge - [**2205-1-1**] 11:30 AM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: PPI
   VAP:
   Need for restraints reviewed
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:ICU ; being screened for rehab ; appreciate PT and case
   management assistance

2205-01-02 11:27:00 Physician Attending Progress Note
Chief Complaint: Respiratory failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   less agitated. Rested overnight
   24 Hour Events:
   History obtained from [**Hospital 85**] Medical records
   Allergies:
   Tetracyclines
   Unknown;
   Last dose of Antibiotics:
   Ceftriaxone - [**2204-12-30**] 02:00 PM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2205-1-2**] 12:32 AM
   Pantoprazole (Protonix) - [**2205-1-2**] 09:00 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: Fatigue
   Genitourinary: hematuria
   Endocrine: Hyperglycemia
   Pain: No pain / appears comfortable
   Flowsheet Data as of  [**2205-1-2**] 11:27 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.9
C (98.4
   Tcurrent: 36.7
C (98
   HR: 61 (48 - 94) bpm
   BP: 133/59(75){94/44(59) - 178/91(101)} mmHg
   RR: 15 (8 - 29) insp/min
   SpO2: 97%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 50.9 kg (admission): 49 kg
   Height: 63 Inch
                  Total In:
                                                                    620 mL
                                                                    100 mL
   PO:
                                                                    620 mL
                  TF:
   IVF:
   Blood products:
   Total out:
                                                                  1,240 mL
                                                                    288 mL
   Urine:
                                                                  1,240 mL
                                                                    288 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -620 mL
                                                                   -188 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 97%
   ABG: 7.45/61/60/39/14
   Physical Examination
   General Appearance: frail
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   11.2 g/dL
   275 K/uL
   72 mg/dL
   0.5 mg/dL
   39 mEq/L
   3.1 mEq/L
   30 mg/dL
   99 mEq/L
   142 mEq/L
   37.0 %
   14.5 K/uL
        [image002.jpg]
                             [**2204-12-28**]  03:11 AM
                             [**2204-12-28**]  12:58 PM
                             [**2204-12-29**]  06:43 AM
                             [**2204-12-30**]  03:46 AM
                             [**2204-12-31**]  05:07 AM
                             [**2204-12-31**]  01:22 PM
                             [**2205-1-1**]  06:30 AM
                             [**2205-1-1**]  01:36 PM
                             [**2205-1-2**]  04:14 AM
                             [**2205-1-2**]  09:22 AM
   WBC
   18.2
   18.4
   17.7
   17.9
   17.0
   14.5
   Hct
   42.1
   41.4
   43.7
   46.5
   45.4
   35.6
   37.0
   Plt
   382
   432
   391
   377
   370
   275
   Cr
   0.7
   0.6
   0.6
   0.5
   0.7
   0.5
   TCO2
   44
   43
   44
   Glucose
   99
   127
   104
   104
   88
   72
   Other labs: PT / PTT / INR:11.0/37.5/0.9, CK / CKMB /
   Troponin-T:21/4/<0.01, Differential-Neuts:94.8 %, Lymph:2.4 %, Mono:2.6
   %, Eos:0.1 %, Ca++:8.6 mg/dL, Mg++:1.8 mg/dL, PO4:3.7 mg/dL
   Assessment and Plan
 HYPOGLYCEMIA - likely a consequence of steroid taper and continued
   aggressive SSI. Will back down dosing
 ANEMIA, ACUTE, SECONDARY TO BLOOD LOSS (HEMORRHAGE, BLEEDING) - hct
   drifting down.
 DELIRIUM / CONFUSION - better today after further reduction in
   prednisone. Will go to 10 mg tomorrow which is her out patient dose.
   remains on Zyprexa [**Hospital1 **]
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name **]) - breathing now seems to be
   at baseline. Will continue her MDIs
   Now improved.
 CHRONIC OBSTRUCTIVE PULMONARY DISEASE (COPD, BRONCHITIS, EMPHYSEMA)
   WITH ACUTE EXACERBATION
   i/e wheeze, ABG wihtin baseline, continues on xoponex and atrovent
 .H/O CORONARY ARTERY DISEASE (CAD, ISCHEMIC HEART DISEASE)
 [**Last Name 121**] PROBLEM - ENTER DESCRIPTION IN COMMENTS
   Osteoporosis
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: PPI
   VAP:
   Need for restraints reviewed
   Comments:
   Communication: Patient discussed on interdisciplinary rounds , ICU
   Code status: Full code
   Disposition :ICU
   Total time spent: 35 minutes

2205-01-03 07:40:00 Physician Resident Progress Note
Chief Complaint: 61F with COPD admitted with increased COPD
   24 Hour Events:
   Hematuria improving despite keeping Foley in
   Continued to improve and become more oriented
   EKG showed QTc of 480
   Sliding scale insulin and BP med doses decreased
   Continues to be screened for rehab (has been accepted at one place,
   waiting to see if daughters agree and if bed available).
 EKG - At [**2205-1-2**] 09:44 AM
 URINE CULTURE - At [**2205-1-2**] 02:11 PM
   Allergies:
   Tetracyclines Unknown;
   Other ICU medications:
   Pantoprazole (Protonix) - [**2205-1-2**] 09:00 AM
   Heparin Sodium (Prophylaxis) - [**2205-1-3**] 12:14 AM
   Other medications:
   Prednisone 10 daily
   Captopril 12.5 TID
   Diltiazem 60 QID
   Metoprolol 25 TID
   Montelukast
   Fluticasone, atrovent, levalbuterol
   Plavix, simvastatin
   Fentanyl patch, percocet prn
   Olanzapine, Paroxetine
   SQ heparin, Protonix
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Respiratory: No(t) Cough, No(t) Dyspnea
   Pain: No pain / appears comfortable
   Flowsheet Data as of  [**2205-1-3**] 07:40 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.1
C (98.8
   Tcurrent: 36.9
C (98.4
   HR: 62 (52 - 73) bpm
   BP: 116/47(64){96/42(55) - 142/81(95)} mmHg
   RR: 10 (9 - 22) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 50.9 kg (admission): 49 kg
   Height: 63 Inch
             Total In:
                                                                    975 mL
                                                                    476 mL
   PO:
                                                                    160 mL
             TF:
   IVF:
                                                                    590 mL
                                                                    476 mL
   Blood products:
   Total out:
                                                                    701 mL
                                                                    155 mL
   Urine:
                                                                    701 mL
                                                                    155 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    274 mL
                                                                    321 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 100%
   ABG: ////
   Physical Examination
   General Appearance: Thin, sleeping quietly in bed
   Cardiovascular: (S1: Normal), (S2: Normal), No(t) S3, No(t) S4, No(t)
   Rub, (Murmur: No(t) Systolic, No(t) Diastolic)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Breath Sounds: Crackles : bilateral)
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right: Absent, Left: Absent
   Skin:  Warm
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Oriented (to): [**Hospital1 54**] [**2204**], thought it was [**Month (only) **], Movement:
   Not assessed, Tone: Not assessed
   Labs / Radiology
   378 K/uL
   12.4 g/dL
   72 mg/dL
   0.5 mg/dL
   39 mEq/L
   3.1 mEq/L
   30 mg/dL
   99 mEq/L
   142 mEq/L
   39.7 %
   16.3 K/uL
        [image002.jpg]
   Fingersticks: 65-158
   Micro
   [**1-2**] urine cx NGTD
   [**12-24**] blood
   [**12-25**] urine
   [**12-26**] sputum spare OP flora
   CXR [**1-2**]
   Lateral aspect of the left lower chest is excluded from the
   examination.
   While there is some obscuration by overlying chest cage there may be
   new right
   perihilar consolidation.  Lateral aspect of the left lower chest is
   excluded
   from the examination.  Multiple healed rib fractures are seen on both
   sides of
   the chest.  The heart is borderline enlarged.  There is no abnormality
   of the
   imaged pleural surfaces.  Thoracic aorta is tortuous but not focally
   dilated.
   No pneumothorax.
                             [**2204-12-29**]  06:43 AM
                             [**2204-12-30**]  03:46 AM
                             [**2204-12-31**]  05:07 AM
                             [**2204-12-31**]  01:22 PM
                             [**2205-1-1**]  06:30 AM
                             [**2205-1-1**]  01:36 PM
                             [**2205-1-2**]  04:14 AM
                             [**2205-1-2**]  09:22 AM
                             [**2205-1-2**]  05:30 PM
                             [**2205-1-3**]  05:58 AM
   WBC
   18.4
   17.7
   17.9
   17.0
   14.5
   16.3
   Hct
   41.4
   43.7
   46.5
   45.4
   35.6
   37.0
   38.7
   39.7
   Plt
   [**Telephone/Fax (3) 743**]70
   275
   378
   Cr
   0.6
   0.6
   0.5
   0.7
   0.5
   TCO2
   43
   44
   Glucose
   127
   104
   104
   88
   72
   Other labs: PT / PTT / INR:11.0/37.5/0.9, CK / CKMB /
   Troponin-T:21/4/<0.01, Differential-Neuts:94.8 %, Lymph:2.4 %, Mono:2.6
   %, Eos:0.1 %, Ca++:8.6 mg/dL, Mg++:1.8 mg/dL, PO4:3.7 mg/dL
   Assessment and Plan
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name **])
   Now improved.
 CHRONIC OBSTRUCTIVE PULMONARY DISEASE (COPD, BRONCHITIS, EMPHYSEMA)
   WITH ACUTE EXACERBATION
   -          S/p empiric ceftriaxone/azithromycin
   -          Continue singulair, flonase. Start tiotropium
   -          At baseline O2 requirement, home dose prednisone
 DELIRIUM / CONFUSION
   - Less confused post steroid taper
   - Continue zyprexa with haldol prn (monitor QTc)
   - Provide frequent reorientation. D/C foley
 HYPOGLYCEMIA
   - Sugars improved since yesterday AM, likely insulin resistance
   decreased in setting of decreased steroids, follow fingersticks
 ANEMIA, ACUTE, SECONDARY TO BLOOD LOSS (HEMORRHAGE, BLEEDING)
   - Likely due to hematuria, Hct stable from yesterday. Stool guiac
   negative. Transfuse Hb>7
 Hypertension
   BPs improved as agitation decreased and respiratory status improved.
   Not on BP meds at home, will DC them today.
 .H/O CORONARY ARTERY DISEASE (CAD, ISCHEMIC HEART DISEASE)
   -          continue plavix, statin, beta blocker, ACE I
   -          not on ASA per home PCP
   ICU [**Name9 (PRE) **]
   Nutrition: regular diet
   Glycemic Control:  Consider D/C sliding scale
   Lines:
   20 Gauge - [**2205-1-2**] 12:30 PM
   Prophylaxis:
   DVT: Boots, SQ UF Heparin
   Stress ulcer: PPI
   VAP:  n/a
   Communication:  Comments:
   Code status: Full code
   Disposition: transfer to rehab

2205-01-03 10:49:00 Physician Attending Progress Note
Chief Complaint: hypoxia
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
 EKG - At [**2205-1-2**] 09:44 AM
 URINE CULTURE - At [**2205-1-2**] 02:11 PM
   History obtained from [**Hospital 85**] Medical records
   Allergies:
   Tetracyclines
   Unknown;
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2205-1-3**] 12:14 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems: No cough or fevers.
   Flowsheet Data as of  [**2205-1-3**] 10:46 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.1
C (98.8
   Tcurrent: 36.7
C (98
   HR: 62 (52 - 71) bpm
   BP: 116/47(64){96/42(55) - 142/81(95)} mmHg
   RR: 10 (9 - 22) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 50.9 kg (admission): 49 kg
   Height: 63 Inch
             Total In:
                                                                    975 mL
                                                                    627 mL
   PO:
                                                                    160 mL
                                                                    120 mL
   TF:
   IVF:
                                                                    590 mL
                                                                    507 mL
   Blood products:
   Total out:
                                                                    701 mL
                                                                    235 mL
   Urine:
                                                                    701 mL
                                                                    235 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    274 mL
                                                                    392 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 100%
   ABG: ///39/
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   12.4 g/dL
   378 K/uL
   76 mg/dL
   0.8 mg/dL
   39 mEq/L
   4.8 mEq/L
   31 mg/dL
   99 mEq/L
   141 mEq/L
   39.7 %
   16.3 K/uL
        [image002.jpg]
                             [**2204-12-29**]  06:43 AM
                             [**2204-12-30**]  03:46 AM
                             [**2204-12-31**]  05:07 AM
                             [**2204-12-31**]  01:22 PM
                             [**2205-1-1**]  06:30 AM
                             [**2205-1-1**]  01:36 PM
                             [**2205-1-2**]  04:14 AM
                             [**2205-1-2**]  09:22 AM
                             [**2205-1-2**]  05:30 PM
                             [**2205-1-3**]  05:58 AM
   WBC
   18.4
   17.7
   17.9
   17.0
   14.5
   16.3
   Hct
   41.4
   43.7
   46.5
   45.4
   35.6
   37.0
   38.7
   39.7
   Plt
   [**Telephone/Fax (3) 743**]70
   275
   378
   Cr
   0.6
   0.6
   0.5
   0.7
   0.5
   0.8
   TCO2
   43
   44
   Glucose
   127
   104
   104
   88
   72
   76
   Other labs: PT / PTT / INR:11.0/37.5/0.9, CK / CKMB /
   Troponin-T:21/4/<0.01, Differential-Neuts:94.8 %, Lymph:2.4 %, Mono:2.6
   %, Eos:0.1 %, Ca++:9.1 mg/dL, Mg++:2.4 mg/dL, PO4:2.9 mg/dL
   Assessment and Plan
 HYPOGLYCEMIA: Resolved.
 ANEMIA, ACUTE, SECONDARY TO BLOOD LOSS (HEMORRHAGE, BLEEDING):  Hct
   stable.
 DELIRIUM / CONFUSION:  Likely due to steroids.
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name **])
   Now improved.   Will place back on home COPD regimen, spiriva, advair,
   d/c atrovent.  Albuterol prn.  Is on prednisone 10 mg at baseline.
 CHRONIC OBSTRUCTIVE PULMONARY DISEASE (COPD, BRONCHITIS, EMPHYSEMA)
   WITH ACUTE EXACERBATION
 .H/O CORONARY ARTERY DISEASE (CAD, ISCHEMIC HEART DISEASE)
 [**Last Name 121**] PROBLEM - ENTER DESCRIPTION IN COMMENTS
   Osteoporosis
   ICU Care
   Nutrition: Diabetic diet.
   Glycemic Control:  Insulin sliding scale.
   Lines:
   20 Gauge - [**2205-1-2**] 12:30 PM
   Prophylaxis:
   DVT: SQ heparin.
   Stress ulcer: PPI.
   VAP: Not intubated.
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition : To rehab.
   Total time spent: 35